2164-10-16 09:44:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, no new problems.  [**Name (NI) 2560**] preliminary read was normal but final
   read is pending.
   24 Hour Events:
 ARTERIAL LINE - START [**2164-10-15**] 05:00 PM
 MULTI LUMEN - START [**2164-10-15**] 05:02 PM
   inserted at the OSH
 INVASIVE VENTILATION - START [**2164-10-15**] 05:34 PM
 MAGNETIC RESONANCE IMAGING - At [**2164-10-16**] 02:45 AM
   mri of abd/pancreas    po and iv contrast used
 NASAL SWAB - At [**2164-10-16**] 06:09 AM
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Intubated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2164-10-16**] 12:47 AM
   Metoprolol - [**2164-10-16**] 02:32 AM
   Hydralazine - [**2164-10-16**] 03:03 AM
   Midazolam (Versed) - [**2164-10-16**] 07:02 AM
   Heparin Sodium (Prophylaxis) - [**2164-10-16**] 08:00 AM
   Fentanyl - [**2164-10-16**] 08:15 AM
   Other medications:
   Med list reviewed - [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-16**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.8
C (100.1
   HR: 85 (77 - 99) bpm
   BP: 173/82(112) {99/48(66) - 183/89(119)} mmHg
   RR: 17 (15 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 8 (8 - 17)mmHg
   Total In:
                                                                  1,037 mL
                                                                  2,303 mL
   PO:
   TF:
   IVF:
                                                                  1,037 mL
                                                                  2,103 mL
   Blood products:
   Total out:
                                                                    455 mL
                                                                    495 mL
   Urine:
                                                                    455 mL
                                                                    445 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    582 mL
                                                                  1,808 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 413 (413 - 488) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   SpO2: 99%
   ABG: 7.39/34/152/19/-3
   Ve: 8.7 L/min
   PaO2 / FiO2: 380
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   178 K/uL
   133 mg/dL
   0.6 mg/dL
   19 mEq/L
   3.8 mEq/L
   16 mg/dL
   115 mEq/L
   143 mEq/L
   26.3 %
   11.0 K/uL
        [image002.jpg]
                             [**2164-10-15**]  05:24 PM
                             [**2164-10-15**]  05:29 PM
                             [**2164-10-16**]  03:21 AM
                             [**2164-10-16**]  05:13 AM
                             [**2164-10-16**]  05:54 AM
   WBC
   6.9
   11.0
   Hct
   29.3
   26.3
   Plt
   109
   178
   Cr
   0.6
   0.6
   TCO2
   20
   21
   21
   Glucose
   82
   133
   Other labs: PT / PTT / INR:13.0/29.1/1.1, ALT / AST:138/63, Alk Phos /
   T Bili:96/2.9, Amylase / Lipase:323/262, Differential-Neuts:59.0 %,
   Band:20.0 %, Lymph:11.0 %, Mono:7.0 %, Eos:0.0 %, Lactic Acid:0.9
   mmol/L, Albumin:2.3 g/dL, LDH:697 IU/L, Ca++:7.3 mg/dL, Mg++:2.3 mg/dL,
   PO4:1.6 mg/dL
   Assessment and Plan
 PANCREATITIS, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   1) Pancreatitis
   Plan:
   - Review results of [**Last Name 2560**]
   2) Altered Mental Status
   - Likely secondary to sedation but if not waking up
   - If not waking up appropriately, then would pursue HCT
   3) Hypertension:
   - Increase beta blocker and add back other medications
   4) Line:
   - peripherals and discontinue central line
   5) Full Code
   6)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2164-10-15**] 05:00 PM
   Multi Lumen - [**2164-10-15**] 05:02 PM
   20 Gauge - [**2164-10-15**] 09:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill

2164-10-17 11:31:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, mental status with slight improvement.  HCT was negative.
   Blood pressure trending higher.
   24 Hour Events:
 BLOOD CULTURED - At [**2164-10-16**] 10:29 AM
 MULTI LUMEN - STOP [**2164-10-16**] 05:55 PM
   inserted at the OSH
 SPUTUM CULTURE - At [**2164-10-16**] 11:56 PM
 BLOOD CULTURED - At [**2164-10-17**] 12:57 AM
 URINE CULTURE - At [**2164-10-17**] 12:57 AM
 FEVER - 101.6
F - [**2164-10-17**] 04:00 AM
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Imipenem/Cilastatin - [**2164-10-17**] 04:50 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-10-17**] 07:35 AM
   Famotidine (Pepcid) - [**2164-10-17**] 09:27 AM
   Fentanyl - [**2164-10-17**] 10:10 AM
   Hydralazine - [**2164-10-17**] 11:11 AM
   Other medications:
   Med List reviewed - see [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-17**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.2
C (100.7
   HR: 90 (83 - 106) bpm
   BP: 164/72(105) {131/61(85) - 196/89(131)} mmHg
   RR: 21 (16 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 9 (7 - 16)mmHg
   Total In:
                                                                  5,601 mL
                                                                  2,076 mL
   PO:
   TF:
   IVF:
                                                                  5,171 mL
                                                                  2,016 mL
   Blood products:
   Total out:
                                                                  1,365 mL
                                                                    640 mL
   Urine:
                                                                  1,315 mL
                                                                    640 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  4,236 mL
                                                                  1,436 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 450 (409 - 450) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   SpO2: 98%
   ABG: 7.42/33/137/20/-1
   Ve: 9 L/min
   PaO2 / FiO2: 343
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   237 K/uL
   128 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.4 mEq/L
   17 mg/dL
   119 mEq/L
   146 mEq/L
   24.6 %
   11.7 K/uL
        [image002.jpg]
                             [**2164-10-15**]  05:24 PM
                             [**2164-10-15**]  05:29 PM
                             [**2164-10-16**]  03:21 AM
                             [**2164-10-16**]  05:13 AM
                             [**2164-10-16**]  05:54 AM
                             [**2164-10-16**]  03:00 PM
                             [**2164-10-17**]  03:51 AM
                             [**2164-10-17**]  09:05 AM
   WBC
   6.9
   11.0
   11.7
   Hct
   29.3
   26.3
   24.6
   Plt
   109
   178
   237
   Cr
   0.6
   0.6
   0.6
   TCO2
   20
   21
   21
   21
   22
   Glucose
   82
   133
   128
   Other labs: PT / PTT / INR:13.2/32.6/1.1, ALT / AST:90/46, Alk Phos / T
   Bili:97/2.4, Amylase / Lipase:137/93, Differential-Neuts:84.5 %,
   Band:20.0 %, Lymph:8.2 %, Mono:6.9 %, Eos:0.2 %, Lactic Acid:0.9
   mmol/L, Albumin:2.3 g/dL, LDH:653 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.4 mg/dL
   Assessment and Plan
 PANCREATITIS, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   A:
   1) Respiratory Failure
   - intubated secondary to mental status
   - hold all sedation and pain medications.  If she appears in pain, call
   team to evaluate mental status
   Plan:
   2) Hypertension
   Plan:
   3) Pneumonia:
   Plan:
   - Bronchoscopy
   - Will add Vancomycin
   4) FEN:
   -
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2164-10-15**] 05:00 PM
   20 Gauge - [**2164-10-15**] 09:48 PM
   18 Gauge - [**2164-10-16**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35

2164-10-18 10:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Yesterday ETT tube changed on rounds for
   24 Hour Events:
 BRONCHOSCOPY - At [**2164-10-17**] 11:45 AM
 UNPLANNED EXTUBATION (NON-PATIENT INITIATED) - At [**2164-10-17**] 11:45 AM
 EEG - At [**2164-10-17**] 04:26 PM
 MULTI LUMEN - START [**2164-10-17**] 07:29 PM
 ARTERIAL LINE - STOP [**2164-10-17**] 11:09 PM
 ARTERIAL LINE - START [**2164-10-17**] 11:10 PM
 FEVER - 101.3
F - [**2164-10-18**] 12:00 AM
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Imipenem/Cilastatin - [**2164-10-18**] 05:00 AM
   Vancomycin - [**2164-10-18**] 08:11 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2164-10-17**] 11:40 AM
   Fentanyl - [**2164-10-17**] 05:41 PM
   Hydralazine - [**2164-10-18**] 03:13 AM
   Heparin Sodium (Prophylaxis) - [**2164-10-18**] 08:11 AM
   Famotidine (Pepcid) - [**2164-10-18**] 09:47 AM
   Other medications:
   Med List Reviewed - See [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-18**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 98 (82 - 103) bpm
   BP: 143/64(91) {103/52(70) - 248/111(162)} mmHg
   RR: 24 (19 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 9 (6 - 11)mmHg
   Total In:
                                                                  4,013 mL
                                                                  1,231 mL
   PO:
   TF:
   IVF:
                                                                  3,883 mL
                                                                  1,181 mL
   Blood products:
   Total out:
                                                                  1,245 mL
                                                                    720 mL
   Urine:
                                                                  1,245 mL
                                                                    640 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                  2,768 mL
                                                                    511 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 364 (364 - 461) mL
   PS : 12 cmH2O
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 93
   SpO2: 99%
   ABG: 7.42/36/115/25/0
   Ve: 8 L/min
   PaO2 / FiO2: 287
   Physical Examination
   General Appearance: No acute distress, intubated and sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   305 K/uL
   132 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.8 mEq/L
   18 mg/dL
   118 mEq/L
   146 mEq/L
   23.5 %
   14.6 K/uL
        [image002.jpg]
                             [**2164-10-15**]  05:29 PM
                             [**2164-10-16**]  03:21 AM
                             [**2164-10-16**]  05:13 AM
                             [**2164-10-16**]  05:54 AM
                             [**2164-10-16**]  03:00 PM
                             [**2164-10-17**]  03:51 AM
                             [**2164-10-17**]  09:05 AM
                             [**2164-10-17**]  12:09 PM
                             [**2164-10-17**]  03:04 PM
                             [**2164-10-18**]  03:40 AM
   WBC
   11.0
   11.7
   14.6
   Hct
   26.3
   24.6
   23.5
   Plt
   178
   237
   305
   Cr
   0.6
   0.6
   0.6
   TCO2
   20
   21
   21
   21
   22
   23
   24
   Glucose
   133
   128
   132
   Other labs: PT / PTT / INR:13.0/27.5/1.1, ALT / AST:61/35, Alk Phos / T
   Bili:123/1.8, Amylase / Lipase:137/43, Differential-Neuts:84.5 %,
   Band:20.0 %, Lymph:8.2 %, Mono:6.9 %, Eos:0.2 %, Lactic Acid:0.9
   mmol/L, Albumin:2.3 g/dL, LDH:653 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.1 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 PANCREATITIS, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   1) Pancreatitis
   Plan:
   - Continue supportive care, TPN
   - Continue Imipenem
   -
   2) Fever/elevated WBC
   - Differential of source includes pneumonia, pancreatitis,
   - changed line and arterial line
   Plan:
   - Continue to treat for VAP
   - Discuss with surgery any concern for infected hemorrhagic
   pancreatitis and whether there is any indication for surgery
   3) Decreased Mental Status
   Plan:
   - EEG read
   - MRI
   - Neuro
   4) Alcohol Abuse
   Plan: Continue thiamine
   5)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-10-15**] 09:48 PM
   18 Gauge - [**2164-10-16**] 04:00 PM
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Arterial Line - [**2164-10-17**] 11:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2164-10-19 07:39:00 Physician Resident Progress Note
Chief Complaint: OSH Transfer for Pancreatitis
   24 Hour Events:
 BLOOD CULTURED - At [**2164-10-18**] 08:10 AM
 MAGNETIC RESONANCE IMAGING - At [**2164-10-18**] 02:07 PM
 FEVER - 101.4
F - [**2164-10-18**] 12:00 PM
   [**10-18**]
   -EEG report: Encephalopathic throughout. Medication effect is probably
   the most common cause of such recordings. There were no epileptiform
   features.
   - GI reccs /Brown - Postpyloric feeding tube over TPN; repeat CT if
   worsens
   - Surgery ([**Pager number 2655**]) - plan per primary team. Have requested consult from
   Dr. [**Last Name (STitle) **].
   - UOP > 30 cc/hr
   - MRI Head - No intracranial abnormalities detected. Specifically, no
   evidence of hemorrhage or infarction. Incidentally noted adipose
   accumulation over the right malar eminence and right maxillary sinus
   air-fluid level.
   - Deferred LP until am if necessary
   - Micro - BAL no growth; Bcx and Ucx ngtd
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2164-10-18**] 07:27 PM
   Imipenem/Cilastatin - [**2164-10-19**] 05:22 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2164-10-18**] 03:20 PM
   Famotidine (Pepcid) - [**2164-10-18**] 09:11 PM
   Heparin Sodium (Prophylaxis) - [**2164-10-18**] 11:36 PM
   Hydralazine - [**2164-10-19**] 04:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Pt intubated and non-responsive.
   Flowsheet Data as of  [**2164-10-19**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.6
C (99.6
   HR: 76 (71 - 106) bpm
   BP: 122/57(82) {105/49(68) - 176/77(111)} mmHg
   RR: 20 (18 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 14 (8 - 14)mmHg
   Bladder pressure: 13 (13 - 13) mmHg
   Total In:
                                                                  2,760 mL
                                                                    862 mL
   PO:
   TF:
   IVF:
                                                                  2,630 mL
                                                                    812 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    400 mL
   Urine:
                                                                  1,360 mL
                                                                    400 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                  1,320 mL
                                                                    462 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 411 (364 - 411) mL
   PS : 12 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 21 cmH2O
   SpO2: 99%
   Ve: 7.7 L/min
   Physical Examination
   GEN: diaphoretic, intubated, sedated, opened eyes to verbal stimuli
   HEENT: icteric sclera with edema, pupils constricted and sluggishly
   responsive, NGT (with bilious drainage)
   NECK: No JVD, no bruits, no cervical lymphadenopathy, trachea midline,
   L IJ without erythema
   COR: RRR, 2/6 SEM at LLSB
   PULM: Lungs CTAB anteriorly
   ABD: tense, distended, + bowel sounds
   EXT: 2+ peripheral edema, upper and lower extremities
   NEURO: sedated, responsive to verbal stimuli
   SKIN: jaundiced
   Labs / Radiology
   394 K/uL
   7.2 g/dL
   122 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.7 mEq/L
   20 mg/dL
   116 mEq/L
   146 mEq/L
   22.0 %
   15.9 K/uL
        [image002.jpg]
                             [**2164-10-16**]  03:21 AM
                             [**2164-10-16**]  05:13 AM
                             [**2164-10-16**]  05:54 AM
                             [**2164-10-16**]  03:00 PM
                             [**2164-10-17**]  03:51 AM
                             [**2164-10-17**]  09:05 AM
                             [**2164-10-17**]  12:09 PM
                             [**2164-10-17**]  03:04 PM
                             [**2164-10-18**]  03:40 AM
                             [**2164-10-19**]  03:54 AM
   WBC
   11.0
   11.7
   14.6
   15.9
   Hct
   26.3
   24.6
   23.5
   22.0
   Plt
   178
   237
   305
   394
   Cr
   0.6
   0.6
   0.6
   0.6
   TCO2
   21
   21
   21
   22
   23
   24
   Glucose
   133
   128
   132
   122
   Other labs: PT / PTT / INR:13.0/28.7/1.1, ALT / AST:61/35, Alk Phos / T
   Bili:123/1.8, Amylase / Lipase:137/43, Differential-Neuts:86.1 %,
   Band:20.0 %, Lymph:9.2 %, Mono:3.1 %, Eos:1.4 %, Lactic Acid:0.9
   mmol/L, Albumin:2.3 g/dL, LDH:653 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.9 mg/dL
[**2164-10-16**] 11:45 pm SPUTUM      Source: Expectorated.
   GRAM STAIN (Final [**2164-10-17**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
  RESPIRATORY CULTURE (Preliminary):
      RARE GROWTH OROPHARYNGEAL FLORA.
         STAPH AUREUS COAG +.
   Assessment and Plan
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 PANCREATITIS, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assesment: This is a 61 year-old female with a history of alcoholism
   and s/p cholecystectomy who presents from an OSH with acute
   pancreatitis
   .
   Plan:
   # Pancreatitis:Enzymes resolved.  Continues to be jaundiced.
   Significant volume overload given resuscitation.
   OSH CT showed pancreatitis and concern for pancreatic necrosis. She
   remains hemodynamically stable and afebrile. Given her history of EtOH
   and cholecystectomy, EtOH pancreatitis is most likely etiology. MRCP
   [**10-16**] showed hemorrhagic pancreatitis without ductal dilitation.
   -Holding on TPN temporarily given concern for sepsis. Will readdress
   nutrition with GI and place feeding tube postpyloric if gut feeding is
   appropriate
   -aggressive IVF based on goal UOP 30-40 cc/hr
   -serial abdominal exams
   -Continue Imipenem to prevent infected necrosis ([**10-16**]- )
   - f/u surgery ([**Last Name (un) 2625**]) and GI recs (Brown)
   # VAP: Sputum GS significant GPCs  [**10-15**]. CX data negative Patient
   having fevers and CXR potentially consistent with mulilobarl pna.
   - Continue Vancomycin 1 g [**Hospital1 **] ([**10-17**]- ) and Imipenem ([**10-16**] - ).
   - fu cx data
   - VAP precautions
   .
   # Altered mental status/Ventilator: Most likely secondary to sedative
   medications she was receiving at OSH including dilaudid, ativan, and
   precedex. Pt intubated for airway protection.  Some concern for Dts
   given autonomic dysfx, fever and delta MS.
   - cont pressure support, wean vent settings as tolerated
   - attempt to minimize sedation to improve MS (hold propafol)
   - lighten sedation and attempt weaning trial
   - Consider LP if MS does not improve (per report pt did have Has b/f
   presentation to OSH)
   - f/u CT head official read
   - f/u EEG re: seizure activity
   - Bronchoscopy for sputum samples
   # EtOH abuse: History of long-standing EtOH abuse. Unclear when last
   drink was however has been in hospital since [**10-12**]. No current signs of
   withdrawal, but patient is significantly sedated.
   - social work consult when MS improves
   .
   # HTN: HTN to SBPs 200s o/n. Could be consistent with EtOH withdrawal
   vs pain/agitation.
   - Continue Metoprolol 25 mg po BID and Enaliprat.1.25 q6
   - Hydralazine q6
   - A line for pressure monitoring
   .
   # FEN: IVF as above, replete lytes prn, ISS, NPO
   .
   # PPx: heparin SQ, h2 blocker, VAP prophylaxis, HOB elevated
   .
   # Code: full code
   .
   # Dispo: ICU
   .
   # Comm:   Family expected to visit today.  Call Brother [**Name (NI) 1495**] with
   Updates.
   - significant other [**Name (NI) 366**] [**Telephone/Fax (1) 2552**]
   - brother [**Name (NI) 1495**] [**Telephone/Fax (1) 2553**] ([**Name2 (NI) 1798**])
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Insulin in TPN
   Lines:
   18 Gauge - [**2164-10-16**] 04:00 PM
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Arterial Line - [**2164-10-17**] 11:10 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:  H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Code status: Full code
   Disposition:ICU

2164-10-19 11:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, MRI with no findings to explain mental status and EEG showed
   diffuse slowing
   This morning some responsiveness to verbal
   24 Hour Events:
 BLOOD CULTURED - At [**2164-10-18**] 08:10 AM
 MAGNETIC RESONANCE IMAGING - At [**2164-10-18**] 02:07 PM
 FEVER - 101.4
F - [**2164-10-18**] 12:00 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Imipenem/Cilastatin - [**2164-10-19**] 05:22 AM
   Vancomycin - [**2164-10-19**] 07:42 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-10-19**] 08:00 AM
   Fentanyl - [**2164-10-19**] 09:17 AM
   Famotidine (Pepcid) - [**2164-10-19**] 09:57 AM
   Hydralazine - [**2164-10-19**] 09:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-19**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.7
C (99.8
   HR: 83 (71 - 106) bpm
   BP: 121/51(74) {105/49(68) - 176/77(111)} mmHg
   RR: 18 (18 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 13 (8 - 14)mmHg
   Bladder pressure: 13 (13 - 13) mmHg
   Total In:
                                                                  2,760 mL
                                                                  1,369 mL
   PO:
   TF:
   IVF:
                                                                  2,630 mL
                                                                  1,319 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    575 mL
   Urine:
                                                                  1,360 mL
                                                                    575 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                  1,320 mL
                                                                    794 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 376 (365 - 411) mL
   PS : 12 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 21 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: ///26/
   Ve: 7.6 L/min
   Physical Examination
   General Appearance: Intubated
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.2 g/dL
   394 K/uL
   122 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.7 mEq/L
   20 mg/dL
   116 mEq/L
   146 mEq/L
   22.0 %
   15.9 K/uL
        [image002.jpg]
                             [**2164-10-16**]  03:21 AM
                             [**2164-10-16**]  05:13 AM
                             [**2164-10-16**]  05:54 AM
                             [**2164-10-16**]  03:00 PM
                             [**2164-10-17**]  03:51 AM
                             [**2164-10-17**]  09:05 AM
                             [**2164-10-17**]  12:09 PM
                             [**2164-10-17**]  03:04 PM
                             [**2164-10-18**]  03:40 AM
                             [**2164-10-19**]  03:54 AM
   WBC
   11.0
   11.7
   14.6
   15.9
   Hct
   26.3
   24.6
   23.5
   22.0
   Plt
   178
   237
   305
   394
   Cr
   0.6
   0.6
   0.6
   0.6
   TCO2
   21
   21
   21
   22
   23
   24
   Glucose
   133
   128
   132
   122
   Other labs: PT / PTT / INR:13.0/28.7/1.1, ALT / AST:61/35, Alk Phos / T
   Bili:123/1.8, Amylase / Lipase:137/43, Differential-Neuts:86.1 %,
   Band:20.0 %, Lymph:9.2 %, Mono:3.1 %, Eos:1.4 %, Lactic Acid:0.9
   mmol/L, Albumin:2.3 g/dL, LDH:653 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.9 mg/dL
   Assessment and Plan
   1) Pancreatitis
   Plan:
   - Place dobhoff post-pyloric
   - CT scan of abd to evaluate necrosis for any signs of infection
   2) Persistent Mental Status Change
   Plan:
   - Hold sedation -> if still unresponsive LP/lactulose/neuro input
   -
   3) Persistent Fever/
   - Differential includes pneumonia, pancreatitis, infected necrotic
   pancreasis
   Plan:
   - Continue Impenem and Vancomycin
   -obtain CT of Abdomen
   4) Respiratory Failure
   - Continue mechanical ventilation
   5) Hypertension
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2164-10-16**] 04:00 PM
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Arterial Line - [**2164-10-17**] 11:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2164-10-20 09:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2164-10-19**] 02:17 PM
   Dobhoff placed, had CT, Echo to r/o infection, EKG for tachycardia
   d/c
d standing tylenol to avoid masking fever.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Imipenem/Cilastatin - [**2164-10-20**] 06:30 AM
   Vancomycin - [**2164-10-20**] 07:59 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2164-10-19**] 09:57 AM
   Fentanyl - [**2164-10-19**] 04:53 PM
   Heparin Sodium (Prophylaxis) - [**2164-10-20**] 07:59 AM
   Morphine Sulfate - [**2164-10-20**] 08:08 AM
   Metoprolol - [**2164-10-20**] 08:45 AM
   Hydralazine - [**2164-10-20**] 08:59 AM
   Review of systems is unchanged from admission except as noted below
   Review of systems:  pt unresponsive
   Flowsheet Data as of  [**2164-10-20**] 09:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 89 (78 - 103) bpm
   BP: 217/102(146) {114/51(73) - 217/102(146)} mmHg
   RR: 31 (18 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 15 (14 - 15)mmHg
   Total In:
                                                                  4,254 mL
                                                                  1,387 mL
   PO:
   TF:
   IVF:
                                                                  2,909 mL
                                                                  1,387 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                  1,330 mL
                                                                    575 mL
   Urine:
                                                                  1,330 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,924 mL
                                                                    813 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 355 (256 - 446) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 7 cmH2O
   SpO2: 95%
   ABG: 7.44/39/106/26/1
   Ve: 8.8 L/min
   PaO2 / FiO2: 265
   Physical Examination
   GEN: diaphoretic, intubated, sedated, opened eyes to verbal stimuli
   HEENT: icteric sclera with edema, pupils constricted and sluggishly
   responsive, NGT (with bilious drainage)
   NECK: No JVD, no bruits, no cervical lymphadenopathy, trachea midline,
   L IJ without erythema
   COR: tachy, Regular rhythm, 2/6 SEM at LLSB
   PULM: Lungs CTAB anteriorly
   ABD: tense, distended, + bowel sounds
   EXT: 2+ peripheral edema, upper and lower extremities
   NEURO: sedated, responsive to verbal stimuli
   SKIN: jaundiced
   Labs / Radiology
   522 K/uL
   8.3 g/dL
   120 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.8 mEq/L
   19 mg/dL
   117 mEq/L
   149 mEq/L
   25.1 %
   21.8 K/uL
        [image002.jpg]
                             [**2164-10-16**]  03:00 PM
                             [**2164-10-17**]  03:51 AM
                             [**2164-10-17**]  09:05 AM
                             [**2164-10-17**]  12:09 PM
                             [**2164-10-17**]  03:04 PM
                             [**2164-10-18**]  03:40 AM
                             [**2164-10-19**]  03:54 AM
                             [**2164-10-19**]  11:03 AM
                             [**2164-10-20**]  05:13 AM
                             [**2164-10-20**]  05:28 AM
   WBC
   11.7
   14.6
   15.9
   21.8
   Hct
   24.6
   23.5
   22.0
   25.1
   Plt
   237
   305
   394
   522
   Cr
   0.6
   0.6
   0.6
   0.6
   TropT
   <0.01
   TCO2
   21
   22
   23
   24
   27
   Glucose
   128
   132
   122
   120
   Other labs: PT / PTT / INR:13.0/28.7/1.1, CK / CKMB /
   Troponin-T:126/3/<0.01, ALT / AST:44/49, Alk Phos / T Bili:346/1.3,
   Amylase / Lipase:137/43, Differential-Neuts:86.1 %, Band:20.0 %,
   Lymph:9.2 %, Mono:3.1 %, Eos:1.4 %, Lactic Acid:0.9 mmol/L, Albumin:2.1
   g/dL, LDH:549 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   CT abdomen:
   Severe pancreatitis with extensive pancreatic necrosis sparing portions
   of  the head and tail.
   Bilateral pleural effusions, slightly increased.
   Marked narrowing of the splenic vein and possible non- occlusive
   thrombus within its mid portion.
   Peripancreatic phlegmon and free fluid in pelvis
   EKG: Sinus rhythm. Left bundle-branch block. Possible old prior
   anteroseptal myocardial infarction. Possible prior inferior myocardial
   infarction. No previous tracing available for comparison.
   Echo: hyperdynamic, mild pulm HTN
   Assesment: This is a 61 year-old female with a history of alcoholism
   and s/p cholecystectomy who presented from an OSH with acute
   pancreatitis; now ICU day 5
   .
   Plan:
   # Pancreatitis:  CT essentially unchanged; identification of
   peripancreatic phlegmon. Continues to be jaundiced.  Significant volume
   overload given aggressive resuscitation; UOP is stable.  WBC continues
   to rise.   GI following.
   -serial abdominal exams
   -Continue Imipenem to treat infected necrosis (started [**10-16**], now d4 )
   - f/u surgery and GI recs (Brown)
   # VAP: Sputum GS significant GPCs  [**10-15**]. CX data negative.
   - Continue Vancomycin 1 g [**Hospital1 **] ([**10-17**]- ) and Imipenem ([**10-16**] - ).
   - VAP precautions
   .
   # Altered mental status/Ventilator:  Off of sedation with minimal
   arousal but slightly improved.
   - cont pressure support, wean vent settings as tolerated
   - attempt to minimize sedation to improve MS (weaning propafol) and
   attempt weaning trial
   - f/c culture data for other infectious source
   # EtOH abuse: hospitalized since [**10-12**]. No current signs of withdrawal,
   but patient is significantly sedated.
   - social work consult when MS improves
   # Fevers: known sources (pancreas/lung) as above.
   - continue to monitor
   # HTN: Improved; may have been secondary to anxiety, withdrawal, fluid
   overload.
   - Continue Metoprolol 25 mg po BID and Enaliprat.1.25 q6
   - Hydralazine q6
   - holding home HCTZ given pancreatitis
   - A line for pressure monitoring
   .
   # FEN: IVF, replete lytes prn, ISS, NPO
   - place post pyloric tube placed
   .
   # PPx: heparin SQ, h2 blocker, VAP prophylaxis, HOB elevated
   .
   # Code: full code
   .
   # Dispo: ICU
   .
   # Comm:   Family expected to visit today.  Call Brother [**Name (NI) 1495**] with
   Updates.
   - significant other [**Name (NI) 366**] [**Telephone/Fax (1) 2552**]
   - brother [**Name (NI) 1495**] [**Telephone/Fax (1) 2553**] ([**Name2 (NI) 1798**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2164-10-16**] 04:00 PM
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Arterial Line - [**2164-10-17**] 11:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-10-20 13:13:00 Physician Attending Progress Note
Chief Complaint: pancreatiits
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo female with necrotizing pancreatitis. Course also notable for
   altered MS [**First Name (Titles) 2677**] [**Last Name (Titles) 2678**] for airway support.
   24 Hour Events:
 TRANSTHORACIC ECHO performed to evaluate for SBE (report negative)
   *Continuing to spike daily fevers on Vanc/Imipenem
   *MS poor, but BP spike with attempts to wean sedation
   *CT abd/pelvis
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Imipenem/Cilastatin - [**2164-10-20**] 06:30 AM
   Vancomycin - [**2164-10-20**] 07:59 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2164-10-19**] 09:57 AM
   Fentanyl - [**2164-10-19**] 04:53 PM
   Hydralazine - [**2164-10-20**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2164-10-20**] 07:59 AM
   Morphine Sulfate - [**2164-10-20**] 08:08 AM
   Metoprolol - [**2164-10-20**] 08:45 AM
   Other medications:
   lactulosem atrovent MDI, vasotec, hydralazine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-20**] 09:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 79 (78 - 103) bpm
   BP: 190/91(129) {114/51(73) - 190/91(129)} mmHg
   RR: 26 (18 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 15 (13 - 15)mmHg
   Total In:
                                                                  4,254 mL
                                                                  1,346 mL
   PO:
   TF:
   IVF:
                                                                  2,909 mL
                                                                  1,346 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                  1,330 mL
                                                                    515 mL
   Urine:
                                                                  1,330 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,924 mL
                                                                    831 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 355 (256 - 446) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 7 cmH2O
   SpO2: 95%
   ABG: 7.44/39/106/26/1
   Ve: 8.8 L/min
   PaO2 / FiO2: 265
   Physical Examination
   Eyes / Conjunctiva: No(t) Pupils dilated, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Distended
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
                                  8.3 g/dL
   522 K/uL
   120 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.8 mEq/L
   19 mg/dL
   117 mEq/L
   149 mEq/L
   25.1 %
   21.8 K/uL
                             [**2164-10-16**]  03:00 PM
                             [**2164-10-17**]  03:51 AM
                             [**2164-10-17**]  09:05 AM
                             [**2164-10-17**]  12:09 PM
                             [**2164-10-17**]  03:04 PM
                             [**2164-10-18**]  03:40 AM
                             [**2164-10-19**]  03:54 AM
                             [**2164-10-19**]  11:03 AM
                             [**2164-10-20**]  05:13 AM
                             [**2164-10-20**]  05:28 AM
   WBC
   11.7
   14.6
   15.9
   21.8
   Hct
   24.6
   23.5
   22.0
   25.1
   Plt
   237
   305
   394
   522
   Cr
   0.6
   0.6
   0.6
   0.6
   TropT
   <0.01
   TCO2
   21
   22
   23
   24
   27
   Glucose
   128
   132
   122
   120
   Other labs: PT / PTT / INR:13.0/28.7/1.1, CK / CKMB /
   Troponin-T:126/3/<0.01, ALT / AST:44/49, Alk Phos / T Bili:346/1.3,
   Amylase / Lipase:137/43, Differential-Neuts:86.1 %, Band:20.0 %,
   Lymph:9.2 %, Mono:3.1 %, Eos:1.4 %, Lactic Acid:0.9 mmol/L, Albumin:2.1
   g/dL, LDH:549 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   * Respiratory failure on mechanical ventilation
 PANCREATITIS, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 fevers
   61 yo female with pancreatitis. Major issues have included poor MS, HTN
   (1) MS changes/HTN
   *Hypertension partly preventing sedation wean
   On: Metoprolol 240 [**Hospital1 **], enalapril q6hour, hydralazine, prn morphine
   Will increase both enalapril and hydralazine, increase dosing of prn
   morphine
   (2) Pancreatitis: pancreatitis markers decreasing, plan post-pyloric
   dobhoff with feeding
   (3) MS changes: this morning, is intermittantly tracking and moving
   extremities more frequently, though still not able to follow commands.
   [**Month (only) 11**] be from heavy sedation. Given improvement, will hold on LP and
   monitor
   (4) Fevers: so far, no obvious sources. Remains on Vanc (+Staph
   sputum)/Imipineme
   (5) Respiratory failure: On PSV 10/5 with MS the major barrier to
   extubation. Continue vent support and perform SBT/extubation when MS
   permits
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2164-10-16**] 04:00 PM
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Arterial Line - [**2164-10-17**] 11:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2164-10-21 07:49:00 Physician Resident Progress Note
Chief Complaint: pancreatitis
   24 Hour Events:
   off of sedation
   Continues to be hypertensive; increased enalaprat and hydralazine with
   OK response.
   [**2164-10-17**] 12:15 pm BRONCHOALVEOLAR LAVAGE
   **FINAL REPORT [**2164-10-20**]**
   GRAM STAIN (Final [**2164-10-17**]):
   1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
   NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Final [**2164-10-20**]):
   OROPHARYNGEAL FLORA ABSENT.
   STAPH AUREUS COAG +.    ~1000/ML.
   SENSITIVITIES PERFORMED ON CULTURE # 263-1751B ([**2164-10-16**])--> MSSA
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2164-10-20**] 07:59 AM
   Imipenem/Cilastatin - [**2164-10-21**] 05:08 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2164-10-20**] 08:45 AM
   Famotidine (Pepcid) - [**2164-10-20**] 09:14 PM
   Heparin Sodium (Prophylaxis) - [**2164-10-20**] 11:20 PM
   Hydralazine - [**2164-10-21**] 03:26 AM
   Morphine Sulfate - [**2164-10-21**] 05:08 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nonverbal, but nods her head that she understands. Shakes her head no
   for pain
   Flowsheet Data as of  [**2164-10-21**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.8
C (100.1
   HR: 82 (73 - 96) bpm
   BP: 132/55(79) {132/55(79) - 217/102(146)} mmHg
   RR: 18 (18 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,292 mL
                                                                  1,103 mL
   PO:
             TF:
                                                                     87 mL
                                                                    252 mL
   IVF:
                                                                  4,124 mL
                                                                    851 mL
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                    565 mL
   Urine:
                                                                  1,050 mL
                                                                    340 mL
   NG:
   Stool:
   225 mL
   Drains:
   Balance:
                                                                  3,242 mL
                                                                    538 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 367 (311 - 444) mL
   PS : 10 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 17 cmH2O
   SpO2: 96%
   ABG: 7.44/40/87.[**Numeric Identifier 274**]/26/2
   Ve: 14.5 L/min
   PaO2 / FiO2: 220
   Physical Examination
   GEN: diaphoretic, intubated, sedated, opens eyes to stimuli and follows
   commands
   HEENT: icteric sclera with edema, pupils constricted and sluggishly
   responsive, NGT (with bilious drainage)
   NECK: No JVD, no bruits, no cervical lymphadenopathy, trachea midline,
   L IJ without erythema
   COR: tachy, Regular rhythm, 2/6 SEM at LLSB
   PULM: Lungs CTAB anteriorly
   ABD: tense, distended, + bowel sounds
   EXT: 2+ peripheral edema, upper and lower extremities
   NEURO: sedated, responsive to verbal stimuli, follows commands
   SKIN: jaundiced
   Labs / Radiology
   701 K/uL
   8.8 g/dL
   204 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.1 mEq/L
   14 mg/dL
   115 mEq/L
   148 mEq/L
   28.0 %
   25.0 K/uL
        [image002.jpg]
                             [**2164-10-17**]  12:09 PM
                             [**2164-10-17**]  03:04 PM
                             [**2164-10-18**]  03:40 AM
                             [**2164-10-19**]  03:54 AM
                             [**2164-10-19**]  11:03 AM
                             [**2164-10-20**]  05:13 AM
                             [**2164-10-20**]  05:28 AM
                             [**2164-10-20**]  05:00 PM
                             [**2164-10-20**]  05:19 PM
                             [**2164-10-21**]  04:16 AM
   WBC
   14.6
   15.9
   21.8
   25.0
   Hct
   23.5
   22.0
   25.1
   25.8
   28.0
   Plt
   [**Telephone/Fax (3) 2690**]01
   Cr
   0.6
   0.6
   0.6
   0.6
   TropT
   <0.01
   TCO2
   23
   24
   27
   28
   Glucose
   132
   122
   120
   204
   Other labs: PT / PTT / INR:13.2/28.7/1.1, CK / CKMB /
   Troponin-T:126/3/<0.01, ALT / AST:45/51, Alk Phos / T Bili:362/1.2,
   Amylase / Lipase:37/24, Differential-Neuts:91.3 %, Band:0.0 %,
   Lymph:5.8 %, Mono:2.5 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:2.1
   g/dL, LDH:535 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Assesment: This is a 61 year-old female with a history of alcoholism
   and s/p cholecystectomy who presented from an OSH with acute
   pancreatitis; now ICU day 6
   .
   Plan:
   # Pancreatitis:  CT essentially unchanged; identification of
   peripancreatic phlegmon. Continues to be jaundiced.  Significant volume
   overload given aggressive resuscitation; UOP is stable.  WBC continues
   to rise.   GI following.  LFTs rising over last 48 hours.
   - Consider RUQ u/s to evaluate for CBD dilitations and possible gall
   stones despite s/p ccy
   -serial abdominal exams
   -Continue Imipenem to treat infected necrosis (started [**10-16**], now d5 )
   - f/u surgery and GI recs (Brown)
   # VAP: Sputum GS significant GPCs  [**10-15**]. Growing MSSA (imipenem
   sensitive). Vancomycin d/cd yesterday ([**Date range (1) 2691**])
   - Continue Imipenem ([**10-16**] - ).
   - VAP precautions
   .
   # Altered mental status/Ventilator:  Off of sedation and mental status
   improved today.
   - cont pressure support, wean vent settings as tolerated
   - weaning trial today
   - f/c culture data for other infectious source
   # EtOH abuse: hospitalized since [**10-12**]. No current signs of withdrawal,
   but patient is significantly sedated.
   - social work consult when MS improves
   # Fevers: known sources (pancreas/lung) as above.
   - continue to monitor
   # HTN: Improved; may have been secondary to anxiety, withdrawal, fluid
   overload.
   - Continue Metoprolol 25 mg po BID, Hydralizine 20 q6 and
   Enaliprat.2.25 q6
   - holding home HCTZ given pancreatitis
   - A line for pressure monitoring
   .
   # FEN: IVF, replete lytes prn, ISS,
   -post pyloric tube placed and TFs at goal
   - free water boluses 250 cc q6 (free water deficit 2 L)
   .
   # PPx: heparin SQ, h2 blocker, VAP prophylaxis, HOB elevated
   .
   # Code: full code
   .
   # Dispo: ICU
   .
   # Comm:   Family expected to visit today.  Call Brother [**Name (NI) 1495**] with
   Updates.
   - significant other [**Name (NI) 366**] [**Telephone/Fax (1) 2552**]
   - brother [**Name (NI) 1495**] [**Telephone/Fax (1) 2553**] ([**Name2 (NI) 1798**])
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2164-10-20**] 07:38 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Arterial Line - [**2164-10-17**] 11:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-10-21 10:34:00 Physician Attending Progress Note
Chief Complaint: pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo female admitted with hemorrhagic pancreatitis, on mechanical
   ventilation primarily for MS/airway; ongoing fevers
   24 Hour Events:
 BLOOD CULTURED - At [**2164-10-21**] 12:00 AM
 URINE CULTURE - At [**2164-10-21**] 04:48 AM
 SPUTUM CULTURE - At [**2164-10-21**] 05:12 AM
 FEVER - 102.2
F - [**2164-10-20**] 12:00 PM
   *Various adjustments made to BP regimen as HTN had made sedation wean
   difficult
   *Improving mental status over the past day
   *On CPAP trial ([**8-19**]) this morning
   *BAL cultures growing out S.aureus
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2164-10-20**] 07:59 AM
   Imipenem/Cilastatin - [**2164-10-21**] 05:08 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2164-10-21**] 03:26 AM
   Morphine Sulfate - [**2164-10-21**] 05:08 AM
   Heparin Sodium (Prophylaxis) - [**2164-10-21**] 08:01 AM
   Famotidine (Pepcid) - [**2164-10-21**] 09:18 AM
   Other medications:
   SSI, hydralazine, vasotec, colace, metoprolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-21**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.8
C (100
   HR: 81 (63 - 96) bpm
   BP: 204/87(128) {132/55(79) - 204/87(128)} mmHg
   RR: 31 (18 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,292 mL
                                                                  1,566 mL
   PO:
             TF:
                                                                     87 mL
                                                                    296 mL
   IVF:
                                                                  4,124 mL
                                                                  1,161 mL
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                    725 mL
   Urine:
                                                                  1,050 mL
                                                                    500 mL
   NG:
   Stool:
   225 mL
   Drains:
   Balance:
                                                                  3,242 mL
                                                                    841 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 367 (311 - 444) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 65
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: 7.44/40/87.[**Numeric Identifier 274**]/26/2
   Ve: 14.5 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Lymphatic: Cervical WNL
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   )
   Abdominal: Non-tender, Distended, hypoactive bs
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   8.8 g/dL
   701 K/uL
   204 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.1 mEq/L
   14 mg/dL
   115 mEq/L
   148 mEq/L
   28.0 %
   25.0 K/uL
        [image002.jpg]
                             [**2164-10-17**]  12:09 PM
                             [**2164-10-17**]  03:04 PM
                             [**2164-10-18**]  03:40 AM
                             [**2164-10-19**]  03:54 AM
                             [**2164-10-19**]  11:03 AM
                             [**2164-10-20**]  05:13 AM
                             [**2164-10-20**]  05:28 AM
                             [**2164-10-20**]  05:00 PM
                             [**2164-10-20**]  05:19 PM
                             [**2164-10-21**]  04:16 AM
   WBC
   14.6
   15.9
   21.8
   25.0
   Hct
   23.5
   22.0
   25.1
   25.8
   28.0
   Plt
   [**Telephone/Fax (3) 2690**]01
   Cr
   0.6
   0.6
   0.6
   0.6
   TropT
   <0.01
   TCO2
   23
   24
   27
   28
   Glucose
   132
   122
   120
   204
   Other labs: PT / PTT / INR:13.2/28.7/1.1, CK / CKMB /
   Troponin-T:126/3/<0.01, ALT / AST:45/51, Alk Phos / T Bili:362/1.2,
   Amylase / Lipase:37/24, Differential-Neuts:91.3 %, Band:0.0 %,
   Lymph:5.8 %, Mono:2.5 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:2.1
   g/dL, LDH:535 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Fluid analysis / Other labs: 7.44/44/80 ABG
   Imaging: CXR: appears less volume overloaded
   Assessment and Plan
 HYPERTENSION, BENIGN
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 PANCREATITIS, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU day 6 for 61 yo female with hemorrhagic pancreatitis. course also
   notable for fevers, VAP, and impaired mental status that has started
   improving over the weekend.
   1. Pancreatitis: Unchanged; continue bowel rest and antibiotics
   2. Acute resp failure: MS improved enough to wean
   Plan SBT and extubation this morning
   3. MSSA VAP: Vanc dc'd based on sensitivities. On imipenem to cover
   lung/gut
   4. HTN: tempoarily improved- high currently
   Other plans per ICU housetaff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Arterial Line - [**2164-10-17**] 11:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   Update after morning rounds: following extubation, patient with
   continued wheezing and hypertension including after various BP
   adjustments and adding lasix with  good uop. Pulm edema persistent on
   CXR but decreased from yesterday. Repeat PE suggests both upper and
   lower airway wheezing. Will begin racemic epi/solumedrol  for presumed
   laryngeal edema
   ------ Protected Section ------
   Evening addendum: In the afternoon, added nitro gtt and started pt on
   BIPAP for persistent wheezing/resp distress with high BP and developing
   hypercarbia
good response to BiPAP. Resp status significantly improved
   after 2-3 hr BiPAP and 2.5 liters uop. Will monitor off NIPPV and
   check repeat blood gas this evening. Boyfriend updated at bedside of
   day
s events. Additional 25 min. spent this afternoon/evening.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2164-10-21**] 18:34 ------

2164-10-22 06:59:00 Physician Resident Progress Note
Chief Complaint: pancreatitis
   24 Hour Events:
   - extubated @ 1100 ; Received solumedrol and racemic epi when wheezes
   noted post extubation
   - HTN - Received Hydral 10 x 2 and then increased hydral to 40 qid and
   still SBP 190s; Started Nitro gtt 1200
   - I/O - net positive 15 L in am ; Gave Lasix 20 mg x3  --> 2 L UOP; @
   1900 -1.9 L
   - ABG 1300 7.43/46/104/32 post extubation from 7.44/40/88/28
   pre-extubation --> started Bipap 1400 and BPs slowly trended down,
   repeat abg 7.43/43/230/32 --> stopped Bipap at 1600 and Bp remained <
   180 and saturations appropriate --> restarted Bipap briefly again 2200
   to 2300
   - Increasing abd pain --> changed morphine prn to dilaudid prn
   - Reports LEFT ankle pain
   - Occasionally tachycardic to 150s. ECG appears sinus tach. ALso
   appears to have LBB (old, only prior [**10-19**]) and ?STEs V1-V3 --> added on
   CEs with amls
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2164-10-20**] 07:59 AM
   Imipenem/Cilastatin - [**2164-10-22**] 06:05 AM
   Infusions:
   Nitroglycerin - 0.4 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2164-10-21**] 10:25 PM
   Heparin Sodium (Prophylaxis) - [**2164-10-22**] 12:02 AM
   Furosemide (Lasix) - [**2164-10-22**] 12:30 AM
   Hydralazine - [**2164-10-22**] 03:48 AM
   Morphine Sulfate - [**2164-10-22**] 03:59 AM
   Hydromorphone (Dilaudid) - [**2164-10-22**] 05:05 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies CP, Abd pain, Cough. + Sob. + Left ankle pain.
   Flowsheet Data as of  [**2164-10-22**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.7
   HR: 122 (63 - 128) bpm
   BP: 145/69(92) {141/65(90) - 204/87(128)} mmHg
   RR: 32 (19 - 37) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,736 mL
                                                                  1,388 mL
   PO:
             TF:
                                                                    596 mL
                                                                    491 mL
   IVF:
                                                                  1,780 mL
                                                                    397 mL
   Blood products:
   Total out:
                                                                  4,120 mL
                                                                  1,260 mL
   Urine:
                                                                  3,895 mL
                                                                  1,260 mL
   NG:
   Stool:
                                                                    225 mL
   Drains:
   Balance:
                                                                 -1,384 mL
                                                                    128 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 541 (290 - 687) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 65
   PIP: 18 cmH2O
   SpO2: 94%
   ABG: 7.47/46/78.[**Numeric Identifier 274**]/33/8
   Ve: 3.4 L/min
   PaO2 / FiO2: 132
   Physical Examination
   GEN: a and o x2 (person, time) ; NAD; Hoarse voice
   HEENT: icteric sclera with edema, pupils constricted and sluggishly
   responsive, NGT (with bilious drainage)
   NECK: No JVD, no bruits, no cervical lymphadenopathy, trachea midline,
   L IJ without erythema
   COR: tachy, Regular rhythm, 2/6 SEM at LLSB
   PULM: diffuse wheeze end exp. Bilaterally; rhonchi left base
   ABD: NT, mildly distended, + bowel sounds, no hSM
   EXT: 2+ peripheral edema, upper and lower extremities; no tenderness
   left heel/ankle, no erythema, warmth at left ankle
   NEURO: moves all exts, sensation intact
   SKIN: jaundiced
   Labs / Radiology
   901 K/uL
   8.5 g/dL
   244 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.9 mEq/L
   19 mg/dL
   110 mEq/L
   148 mEq/L
   25.9 %
   26.3 K/uL
        [image002.jpg]
                             [**2164-10-20**]  05:13 AM
                             [**2164-10-20**]  05:28 AM
                             [**2164-10-20**]  05:00 PM
                             [**2164-10-20**]  05:19 PM
                             [**2164-10-21**]  04:16 AM
                             [**2164-10-21**]  01:18 PM
                             [**2164-10-21**]  03:06 PM
                             [**2164-10-21**]  07:23 PM
                             [**2164-10-22**]  04:35 AM
                             [**2164-10-22**]  06:36 AM
   WBC
   21.8
   25.0
   26.3
   Hct
   25.1
   25.8
   28.0
   25.9
   Plt
   522
   701
   901
   Cr
   0.6
   0.6
   0.7
   0.7
   TCO2
   27
   28
   32
   32
   34
   Glucose
   120
   204
   189
   244
   Other labs: PT / PTT / INR:13.2/28.7/1.1, CK / CKMB /
   Troponin-T:126/3/<0.01, ALT / AST:42/50, Alk Phos / T Bili:310/1.0,
   Amylase / Lipase:37/24, Differential-Neuts:93.4 %, Band:0.0 %,
   Lymph:3.6 %, Mono:2.8 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.4
   g/dL, LDH:603 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   Assesment: This is a 61 year-old female with a history of alcoholism
   and s/p cholecystectomy who presented from an OSH with acute
   pancreatitis; now ICU day 6
   .
   Plan:
   # Pancreatitis:  CT essentially unchanged; identification of
   peripancreatic phlegmon. Continues to be jaundiced.  Significant volume
   overload given aggressive resuscitation; UOP is stable.  WBC continues
   to rise.   GI following.  LFts starting to come down.
   -serial abdominal exams
   -Per surgery, no need to cover with antibx for necrotic pancreas
   (started [**10-16**], now d5 )
   - f/u surgery and GI recs (Brown)
   # VAP: Sputum GS significant GPCs  [**10-15**]. Growing MSSA (imipenem
   sensitive). Vancomycin d/cd ([**Date range (1) 2691**])
   - Transition from Imipenem (12/2
 [**10-22**]) to Nafcillin for planned 8 day
   course of MSSA VAP
   - VAP precautions
   .
   # Pulmonary edema:  Extubated [**10-21**] and saturating well. Overall volume
   up, and CXR consistent with pulmonary edema.
   -Bipap as needed for pulmonary edema
   -Lasix prn for goal I/O negative 1-2 L
   - Atrovent and albuterol nebs
   # Horase voice: patient had traumatic intubation and continues to have
   a hoarse voice.
   - ENT consult to eval vocal cords
   # EtOH abuse: hospitalized since [**10-12**]. No current signs of withdrawal,
   but patient is significantly sedated.
   - social work consult when MS improves
   # Fevers: known sources (pancreas/lung) as above.
   - continue to monitor
   # HTN: Likely [**12-17**] to pain and volume overload.
   - Continue Metoprolol 25 mg po BID, Hydralizine 40 q6 and increase
   Enaliprat.2.25 q6 to 5 q 6
   - lasix prn (see above)
   - Consider adding clonidine if necessary
   - holding home HCTZ given pancreatitis
   - A line for pressure monitoring
   # Diarrhea
 Noted today. Test for Cdiff given antibx use and
   leukocytosis.
   # Hyperglycemia: In the setting of steroids.
   - Insulin gtt for better glucose control
   .
   # FEN: IVF, replete lytes prn, ISS,
   -post pyloric tube placed and TFs at goal
   - free water boluses 250 cc q6 (free water deficit 2 L)
   .
   # PPx: heparin SQ, h2 blocker, VAP prophylaxis, HOB elevated
   .
   # Code: full code
   .
   # Dispo: ICU
   .
   # Comm:   Family expected to visit today.  Call Brother [**Name (NI) 1495**] with
   Updates.
   - significant other [**Name (NI) 366**] [**Telephone/Fax (1) 2552**]
   - brother [**Name (NI) 1495**] [**Telephone/Fax (1) 2553**] ([**Name2 (NI) 1798**])
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2164-10-22**] 04:27 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Arterial Line - [**2164-10-17**] 11:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-10-22 10:19:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis, acute respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient extubated yesterday. Given BiPAP for presumed CHF and laryngeal
   edema. Diuresed.
   Patient noted increased abdominal pain as sedation reduced.
   ABG shows metabolic alkalosis.
   Hemodynamically stable.
   Hct stable.
   Continues on IV TNG.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2164-10-21**] 10:46 AM
   History obtained from Patient
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2164-10-20**] 07:59 AM
   Imipenem/Cilastatin - [**2164-10-22**] 06:05 AM
   Infusions:
   Nitroglycerin - 0.4 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2164-10-21**] 10:25 PM
   Heparin Sodium (Prophylaxis) - [**2164-10-22**] 12:02 AM
   Furosemide (Lasix) - [**2164-10-22**] 12:30 AM
   Hydralazine - [**2164-10-22**] 03:48 AM
   Morphine Sulfate - [**2164-10-22**] 03:59 AM
   Hydromorphone (Dilaudid) - [**2164-10-22**] 05:05 AM
   Other medications:
   vasotec, colace, hydralazine, senna, tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-22**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.3
C (97.3
   HR: 121 (81 - 128) bpm
   BP: 165/82(109) {141/65(90) - 204/87(128)} mmHg
   RR: 33 (19 - 37) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,736 mL
                                                                  1,629 mL
   PO:
             TF:
                                                                    596 mL
                                                                    692 mL
   IVF:
                                                                  1,780 mL
                                                                    437 mL
   Blood products:
   Total out:
                                                                  4,120 mL
                                                                  1,350 mL
   Urine:
                                                                  3,895 mL
                                                                  1,350 mL
   NG:
   Stool:
                                                                    225 mL
   Drains:
   Balance:
                                                                 -1,384 mL
                                                                    279 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 541 (290 - 687) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 65
   PIP: 18 cmH2O
   SpO2: 94%
   ABG: 7.47/46/78.[**Numeric Identifier 274**]/33/8
   Ve: 3.4 L/min
   PaO2 / FiO2: 132
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Mild respiratory
   distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes
   : Diffuse end-expiratory wheezes, Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 3+ edema, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, time - thought she was in [**Hospital 1504**]
   hospital, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   901 K/uL
   244 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.9 mEq/L
   19 mg/dL
   110 mEq/L
   148 mEq/L
   25.9 %
   26.3 K/uL
        [image002.jpg]
                             [**2164-10-20**]  05:13 AM
                             [**2164-10-20**]  05:28 AM
                             [**2164-10-20**]  05:00 PM
                             [**2164-10-20**]  05:19 PM
                             [**2164-10-21**]  04:16 AM
                             [**2164-10-21**]  01:18 PM
                             [**2164-10-21**]  03:06 PM
                             [**2164-10-21**]  07:23 PM
                             [**2164-10-22**]  04:35 AM
                             [**2164-10-22**]  06:36 AM
   WBC
   21.8
   25.0
   26.3
   Hct
   25.1
   25.8
   28.0
   25.9
   Plt
   522
   701
   901
   Cr
   0.6
   0.6
   0.7
   0.7
   TCO2
   27
   28
   32
   32
   34
   Glucose
   120
   204
   189
   244
   Other labs: PT / PTT / INR:13.2/28.7/1.1, CK / CKMB /
   Troponin-T:126/3/<0.01, ALT / AST:42/50, Alk Phos / T Bili:310/1.0,
   Amylase / Lipase:37/24, Differential-Neuts:93.4 %, Band:0.0 %,
   Lymph:3.6 %, Mono:2.8 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.4
   g/dL, LDH:603 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:1.9 mg/dL
   Imaging: CXR: hyperinflated. Upper lobe infiltrates bilaterally and
   bibasilar infiltrates/atelectasis; dense retrocardiac opacity.
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPERTENSION, BENIGN
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 PANCREATITIS, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   HYPERNATREMIA
   Patient remains in some respiratory distress. Suspect she has
   underlying COPD given her hyperinflation on CXR. Wheezes now may be due
   to volume overload. Would aim for 1.5-2.0 L negative today.
   Patient's pancreatitis appears to be improving. Abdominal exam less
   tender today. Patient remains on IV TNG. With greater diuresis, may be
   able to wean this. Hct stable as is calcium. No need for transfusion
   now.
   Patient with MSSA in sputum on several specimens. Antibiotics being
   narrowed to treat this.
   Free water being repleted. Need to pay attention to the maintenance
   needs in the context of diuresis; each liter of urine with lasix
   represents approximately 0.5 L of free water.
   ICU Care
   Nutrition: Tube feeds
   Replete with Fiber (Full) - [**2164-10-22**] 04:27 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale being switched to
   insulin infusion
   Lines:
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Arterial Line - [**2164-10-17**] 11:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:  Not applicable off vent.
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2164-10-23 06:42:00 Physician Resident Progress Note
Chief Complaint: pancreatitis
   24 Hour Events:
   -Lasix 20mg times 3 given overnight.
   -Hypertension from yesterday -still 180's (and 200 [**10-22**] AM). Increased
   Enalopril to 5mg
   -Rec'd free water boluses yesterday as well as Lasix, likely
   contributing to hyponatremia.
   -New Left lower lobe opacification noted on AM CXR
   -[**Doctor First Name 3**] notes-- no Abx needed for pancreatitis.
   -Imipenum --> Nafcillin for MSSA (grown times 3), therefore need to
   watch sodium
   -Should f/u with Dr. [**Last Name (STitle) **] and GI outpatient
   -Started Insulin drip with plan to recalc needs tomorrow
   -ENT consult called for hoarseness s/p extubation: vocal cords
   funtional but will take time to recover.
   -D/C Famotidine and started PPI.
   -F/u ENT in two weeks
   -Rec'd 40 of K PO and 40 IV in PM
   -Noted to be tachy to 140's with RR in 30's in afternoon; responded to
   Lopressor.
   -Gave .5mg of Ativan IV x2
   -off nitro, plan to use Clonidine if further control of HTN required
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2164-10-20**] 07:59 AM
   Imipenem/Cilastatin - [**2164-10-22**] 06:05 AM
   Nafcillin - [**2164-10-23**] 01:57 AM
   Infusions:
   Insulin - Regular - 6 units/hour
   Other ICU medications:
   Metoprolol - [**2164-10-22**] 02:29 PM
   Hydralazine - [**2164-10-22**] 04:00 PM
   Lorazepam (Ativan) - [**2164-10-22**] 09:22 PM
   Heparin Sodium (Prophylaxis) - [**2164-10-23**] 12:05 AM
   Furosemide (Lasix) - [**2164-10-23**] 04:27 AM
   Hydromorphone (Dilaudid) - [**2164-10-23**] 06:12 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies pain, sob.
   Flowsheet Data as of  [**2164-10-23**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.8
   HR: 112 (80 - 121) bpm
   BP: 171/86(111) {112/55(72) - 250/224(238)} mmHg
   RR: 33 (19 - 37) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 11 (11 - 15)mmHg
   Total In:
                                                                  4,221 mL
                                                                  1,984 mL
   PO:
   TF:
                                                                  1,719 mL
                                                                    473 mL
   IVF:
                                                                  1,502 mL
                                                                  1,261 mL
   Blood products:
   Total out:
                                                                  3,770 mL
                                                                  1,110 mL
   Urine:
                                                                  3,730 mL
                                                                  1,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    451 mL
                                                                    874 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 589 (519 - 709) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.52/42/203/36/10
   Ve: 11.4 L/min
   PaO2 / FiO2: 508
   Physical Examination
   GEN: Extremely drowsy and not responding to questions ; NAD; quiet
   voice
   HEENT: icteric sclera with edema, pupils constricted and sluggishly
   responsive, NGT (with bilious drainage)
   NECK: No JVD, no bruits, no cervical lymphadenopathy, trachea midline,
   L IJ without erythema
   COR: tachy, Regular rhythm, 2/6 SEM at LLSB
   PULM: diffuse wheeze end exp. Bilaterally; rhonchi left base
   ABD: NT, mildly distended, + bowel sounds, no hSM
   EXT: 2+ peripheral edema, upper and lower extremities; no tenderness
   left heel/ankle, no erythema, warmth at left ankle
   NEURO: moves all exts, sensation intact
   SKIN: jaundiced
   Labs / Radiology
   849 K/uL
   7.8 g/dL
   103 mg/dL
   0.7 mg/dL
   36 mEq/L
   3.6 mEq/L
   24 mg/dL
   107 mEq/L
   150 mEq/L
   24.6 %
   26.3 K/uL
        [image002.jpg]
                             [**2164-10-21**]  04:16 AM
                             [**2164-10-21**]  01:18 PM
                             [**2164-10-21**]  03:06 PM
                             [**2164-10-21**]  07:23 PM
                             [**2164-10-22**]  04:35 AM
                             [**2164-10-22**]  06:36 AM
                             [**2164-10-22**]  02:45 PM
                             [**2164-10-22**]  03:16 PM
                             [**2164-10-22**]  03:26 PM
                             [**2164-10-23**]  04:04 AM
   WBC
   25.0
   26.3
   Hct
   28.0
   25.9
   24.6
   Plt
   [**Telephone/Fax (3) 2720**]
   Cr
   0.6
   0.7
   0.7
   0.7
   0.7
   TropT
   <0.01
   TCO2
   32
   32
   34
   34
   35
   Glucose
   [**Telephone/Fax (3) 2721**]79
   103
   Other labs: PT / PTT / INR:12.7/27.3/1.1, CK / CKMB /
   Troponin-T:103/5/<0.01, ALT / AST:48/65, Alk Phos / T Bili:304/1.4,
   Amylase / Lipase:37/24, Differential-Neuts:93.4 %, Band:0.0 %,
   Lymph:3.6 %, Mono:2.8 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.3
   g/dL, LDH:576 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   Assesment: This is a 61 year-old female with a history of alcoholism
   and s/p cholecystectomy who presented from an OSH with acute
   pancreatitis; now ICU day 8
   .
   Plan:
   # Pancreatitis:  CT essentially unchanged; identification of
   peripancreatic phlegmon. Continues to be jaundiced.  Significant volume
   overload given aggressive resuscitation; UOP is stable.  WBC trending
   down.   GI following.  LFts continue to trend down.
   -Per surgery, no need to cover with antibx for necrotic pancreas ([**Last Name (un) 1540**]
   [**10-16**]
 [**10-22**])
   - f/u surgery and GI recs (Brown)
   # VAP: Sputum GS significant GPCs  [**10-15**]. Growing MSSA (imipenem
   sensitive). Vancomycin d/cd ([**Date range (1) 2691**])
   - Transition from Imipenem (12/2
 [**10-22**]) to Nafcillin for planned 8 day
   course of MSSA VAP to complete [**10-24**]. Given decompensation will restart
   Imipenem and d/c Naficillin.
   - VAP precautions
   - resent blood, sputum, urine cx
   .
   # Pulmonary edema:  Extubated [**10-21**] and saturating well. Overall volume
   up, and CXR consistent with pulmonary edema.
   -Bipap as needed given tachycardia and pulmonary edema in setting of
   volume overload
   -Lasix prn for goal I/O negative 1-2 L
   - Atrovent and albuterol nebs
   # Alkalosis: Likely [**12-17**] aggressive diuresis. Also consistent with
   hypernatremia.
   # Diarrhea: Developed on antibx. Cdiff negative x 1
   - Repeat cdiff x 2
   # Horase voice: patient had traumatic intubation and continues to have
   a hoarse voice. ENT reports vocal cords functional and will continue to
   take time to recover.
   -f/u any further ENT reccs
   - f/u with ent in 2 wks
   #  Change in Mental Status: Pt significantly more drowsy this am.
   Likely [**12-17**] to Ativan received last night.
    -Hold Benzos for now
    - repeat ABG
    - reassess MS
   # EtOH abuse: hospitalized since [**10-12**]. No current signs of withdrawal,
   but patient is significantly sedated.
   - social work consult when MS improves
   # Fevers: known sources (pancreas/lung) as above.
   - continue to monitor
   # HTN: Likely [**12-17**] to pain and volume overload. Now off Nitro gtt.
   - Continue Metoprolol 25 mg po BID, Hydralizine 40 q6 and increase
   Enaliprat. 5 q 6
   - lasix prn (see above)
   - Added clonidine if necessary to avoid restarting nitro gtt
   - holding home HCTZ given pancreatitis
   - A line for pressure monitoring
   # Tachycardia: Responded to lopressor yesterday. ECG demonstrates sinus
   tachycardia
   - continue metoprolol at home dose
   # Hyperglycemia: In the setting of steroids.
   - Insulin gtt for better glucose control
   .
   # FEN: IVF, replete lytes prn, ISS,
   -post pyloric tube placed and TFs at goal
   - free water boluses 250 cc q6 (free water deficit 2 L)
   .
   # PPx: heparin SQ, h2 blocker, VAP prophylaxis, HOB elevated
   .
   # Code: full code
   .
   # Dispo: ICU
   .
   # Comm:   Family expected to visit today.  Call Brother [**Name (NI) 1495**] with
   Updates.
   - significant other [**Name (NI) 366**] [**Telephone/Fax (1) 2552**]
   - brother [**Name (NI) 1495**] [**Telephone/Fax (1) 2553**] ([**Name2 (NI) 1798**])
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2164-10-23**] 01:23 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Arterial Line - [**2164-10-17**] 11:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-10-23 12:20:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Given lasix on three occasions yesterday. TNG infusion stopped. BP
   improved.
   Doing well post extuation.
   Two liters of free water given yesterday, but urine output was nearly
   4L. Serum Na remains elevated. CVP still high at 11.
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Imipenem/Cilastatin - [**2164-10-22**] 06:05 AM
   Nafcillin - [**2164-10-23**] 08:00 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Metoprolol - [**2164-10-22**] 02:29 PM
   Hydralazine - [**2164-10-22**] 04:00 PM
   Lorazepam (Ativan) - [**2164-10-22**] 09:22 PM
   Pantoprazole (Protonix) - [**2164-10-23**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2164-10-23**] 08:00 AM
   Hydromorphone (Dilaudid) - [**2164-10-23**] 10:00 AM
   Furosemide (Lasix) - [**2164-10-23**] 11:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-23**] 12:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.4
   HR: 92 (80 - 121) bpm
   BP: 107/75(88) {94/55(72) - 250/224(238)} mmHg
   RR: 31 (23 - 37) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 315 (11 - 319)mmHg
   Total In:
                                                                  4,221 mL
                                                                  2,613 mL
   PO:
   TF:
                                                                  1,719 mL
                                                                    851 mL
   IVF:
                                                                  1,502 mL
                                                                  1,451 mL
   Blood products:
   Total out:
                                                                  3,770 mL
                                                                  1,620 mL
   Urine:
                                                                  3,730 mL
                                                                  1,620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    451 mL
                                                                    993 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 2,295 (519 - 2,295) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: 7.52/42/203/36/10
   Ve: 11.4 L/min
   PaO2 / FiO2: 508
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, Anxious, No(t) Diaphoretic, Moderate respiratory
   distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : ), (Breath Sounds: No(t) Clear : , Crackles : ,
   No(t) Bronchial: , Wheezes : , No(t) Diminished: , No(t) Absent : ,
   Rhonchorous: ), Using accessory muscles of ventilation; diffuse
   rhonchi, coarse rales, and expiratory wheezees
   Abdominal: No(t) Soft, Non-tender, No(t) Bowel sounds present,
   Distended, No(t) Tender: , Firm, reduced bowel sounds
   Extremities: Right: 3+ edema, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   849 K/uL
   103 mg/dL
   0.7 mg/dL
   36 mEq/L
   3.6 mEq/L
   24 mg/dL
   107 mEq/L
   150 mEq/L
   24.6 %
   19.2 K/uL
        [image002.jpg]
                             [**2164-10-21**]  04:16 AM
                             [**2164-10-21**]  01:18 PM
                             [**2164-10-21**]  03:06 PM
                             [**2164-10-21**]  07:23 PM
                             [**2164-10-22**]  04:35 AM
                             [**2164-10-22**]  06:36 AM
                             [**2164-10-22**]  02:45 PM
                             [**2164-10-22**]  03:16 PM
                             [**2164-10-22**]  03:26 PM
                             [**2164-10-23**]  04:04 AM
   WBC
   25.0
   26.3
   19.2
   Hct
   28.0
   25.9
   24.6
   Plt
   [**Telephone/Fax (3) 2720**]
   Cr
   0.6
   0.7
   0.7
   0.7
   0.7
   TropT
   <0.01
   TCO2
   32
   32
   34
   34
   35
   Glucose
   [**Telephone/Fax (3) 2721**]79
   103
   Other labs: PT / PTT / INR:12.7/27.3/1.1, CK / CKMB /
   Troponin-T:103/5/<0.01, ALT / AST:48/65, Alk Phos / T Bili:304/1.4,
   Amylase / Lipase:37/24, Differential-Neuts:95.0 %, Band:0.0 %,
   Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.3
   g/dL, LDH:576 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Imaging: CXR: hyperinflated. Diffuse haziness. ?elevation of minor
   fissure with volume loss in RUL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPERTENSION, BENIGN
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 PANCREATITIS, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   HYPERNATREMIA
   ANEMIA
   ALKALOSIS
   Patient in more respiratory distress this AM with congestion diffusely.
   Getting nebs. With CVP still elevated. suspect volume overload also
   playing a role. Will obtain ABG, lasix given, will restart BiPAP.
   Hct stable. Not at transfusion threshold.
   Continues on antibiotics for pneumonia.
   KCl being repleted for contraction alkalosis.
   Free water being repleted.
   With respect to volume loss in RUL, bronch last week did not show
   obstructing lesion.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2164-10-23**] 08:19 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Arterial Line - [**2164-10-17**] 11:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2164-10-24 07:33:00 Physician Resident Progress Note
Chief Complaint: pancreatitis
   24 Hour Events:
   - 4pm had tachycardia suspected to be a fib w/ RVR.  Became acutely
   hypotensive.  Was given sedation for cardioversion and subsequently
   required intubation.  Now back on the vent.
   - had nose bleed following re-intubation.
   - CT scan of the chest obtained; results pending, but there is apparent
   LUL intersitial markings and bilateral pleural effusions.
   - Lost OG tube in the process of intubation; now holding tube feeds.
   - Was hypotensive; antihypertensives were held.  Weaned versed, but
   then hypertensive.  Started on propofol.
   - blood sugar 18 at 5am (pt recieved full dose lantus at night although
   no tube feeds)
   - Had high airway resistance overnight.  Respiratory suctioned out "old
   blood" (~200cc- check drain). High peak airway pressures; improved
   initally with suctioning, then needed decreased TV to get peak Pressure
   <30.  Did not respond to albuterol.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Nafcillin - [**2164-10-23**] 08:00 AM
   Imipenem/Cilastatin - [**2164-10-24**] 02:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2164-10-23**] 04:00 PM
   Hydromorphone (Dilaudid) - [**2164-10-23**] 04:00 PM
   Midazolam (Versed) - [**2164-10-23**] 04:23 PM
   Metoprolol - [**2164-10-23**] 04:36 PM
   Fentanyl - [**2164-10-23**] 05:45 PM
   Pantoprazole (Protonix) - [**2164-10-23**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2164-10-24**] 12:47 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   nonverbal
   Flowsheet Data as of  [**2164-10-24**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.7
C (98
   HR: 78 (70 - 150) bpm
   BP: 110/44(64) {84/41(59) - 165/87(115)} mmHg
   RR: 20 (17 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 9 (7 - 319)mmHg
   Total In:
                                                                  6,375 mL
                                                                    291 mL
   PO:
   TF:
                                                                  1,098 mL
   IVF:
                                                                  4,267 mL
                                                                    291 mL
   Blood products:
   Total out:
                                                                  3,455 mL
                                                                    230 mL
   Urine:
                                                                  3,455 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,920 mL
                                                                     61 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 1,497 (947 - 2,295) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.54/44/161/38/13
   Ve: 9.3 L/min
   PaO2 / FiO2: 403
   Physical Examination
   GEN: intubated, sedated, does not respond to verbal stimuli, NAD
   HEENT: icteric sclera with edema, pupils constricted and sluggishly
   responsive
   NECK: No JVD, no bruits, no cervical lymphadenopathy, trachea midline,
   L IJ without erythema
   COR: tachy, Regular rhythm, 2/6 SEM at LLSB
   PULM: diffuse wheeze end exp in all lung fields
   ABD: NT, mildly distended, + bowel sounds, no hSM
   EXT: 2+ peripheral edema, upper and lower extremities
   NEURO: sedated, PERRLA
   SKIN: jaundiced
   Labs / Radiology
   935 K/uL
   7.2 g/dL
   18 mg/dL
   0.7 mg/dL
   38 mEq/L
   3.5 mEq/L
   28 mg/dL
   109 mEq/L
   149 mEq/L
   21.8 %
   15.7 K/uL
        [image002.jpg]
                             [**2164-10-22**]  03:16 PM
                             [**2164-10-22**]  03:26 PM
                             [**2164-10-23**]  04:04 AM
                             [**2164-10-23**]  12:21 PM
                             [**2164-10-23**]  04:09 PM
                             [**2164-10-23**]  06:30 PM
                            [**2164-10-24**]  02:27 AM
                            [**2164-10-24**]  04:04 AM
                            [**2164-10-24**]  04:22 AM
                            [**2164-10-24**]  06:32 AM
   WBC
   19.2
   15.7
   Hct
   24.6
   21.8
   Plt
   849
   935
   Cr
   0.7
   0.7
   0.8
   0.7
   TropT
   <0.01
   TCO2
   35
   40
   37
   36
   40
   39
   Glucose
   179
   103
   197
   18
   Other labs: PT / PTT / INR:12.7/27.3/1.1, CK / CKMB /
   Troponin-T:71/4/<0.01, ALT / AST:35/50, Alk Phos / T Bili:206/1.0,
   Amylase / Lipase:37/24, Differential-Neuts:89.9 %, Band:0.0 %,
   Lymph:6.7 %, Mono:2.6 %, Eos:0.6 %, Lactic Acid:1.1 mmol/L, Albumin:2.2
   g/dL, LDH:494 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   Assesment: This is a 61 year-old female with a history of alcoholism
   and s/p cholecystectomy who presented from an OSH with acute
   pancreatitis; now ICU day 9. Re-intubated emergently yesterday in the
   setting of hypotension to sbp 60s a fib with RVR to 200s s/p
   cardioversion.
   .
   Plan:
   # Pancreatitis:  CT essentially unchanged; identification of
   peripancreatic phlegmon. Continues to be jaundiced.  Significant volume
   overload given aggressive resuscitation; UOP is stable.  WBC trending
   down.   GI following.  LFts continue to trend down.
   -Per surgery, no need to cover with antibx for necrotic pancreas ([**Last Name (un) 1540**]
   [**10-16**]
 [**10-22**])
   - f/u surgery and GI recs (Brown)
   # VAP: Sputum GS significant GPCs  [**10-15**]. Growing MSSA (imipenem
   sensitive). Vancomycin d/cd ([**Date range (1) 2691**]). Transition from Imipenem (12/2
 [**10-22**]) to Nafcillin [**10-22**], but Imipenem was restarted given
   decompensating respitory status. Plan to complete 10 day course [**10-26**]
   - Continue Imipenem
   - VAP precautions
   - resent blood, sputum, urine cx
   .
   # Respiratory/Pulmonary edema:  Extubated [**10-21**] but emergently
   re-intubated [**10-23**] during event with svt and hypotenstion. Overall
   volume up, and CXR consistent with pulmonary edema. CT chest with
   interstitial changes and pleural effusions.
   - Advance ET tube 2-3 cm
   - Propafol for sedation
   - Pt requires diuresis but goes into SVT with aggressive diuresis
   - Continue cautious diuresis with Lasix prn for goal 500 cc
 1  L net
   negative
   - Atrovent and albuterol nebs; Ipratropium MDI
   - Bronchoscopy later today for samples and relieving obstruction
   # SVTachycardia: Patient has prior h/o of Afib per pt while she was
   awake. Reportedly never anticoagulated. Episodes of SVT appear
   precipitated by  diuresis. Now in NSR. S/p cardioversion x2 yesterday,
   but pt spontaneously converted herself during code situation yesterday.
   - Continue Amiodarone gtt
   - Continue Metoprolol 25 mg po BID; use lopressor 5 iv q6 while no OG
   tube
   # Anemia: Given patients need for Colloid [**Last Name (LF) 2740**], [**First Name3 (LF) 116**] transfuse
   1 U PRBC. Anemia is likely [**12-17**] to blood loss post traumatic intubation.
   # Alkalosis: Likely [**12-17**] aggressive diuresis. Also consistent with
   hypernatremia.
   # Diarrhea: Developed on antibx. Cdiff negative x 1
   - Repeat cdiff x 2
   # Horase voice: patient had traumatic intubation and continues to have
   a hoarse voice. ENT reports vocal cords functional and will continue to
   take time to recover.
   - f/u any further ENT reccs
   - f/u with ent in 2 wks
   # EtOH abuse: hospitalized since [**10-12**]. No current signs of withdrawal,
   but patient is significantly sedated.
   - social work consult when MS improves
   # HTN: Likely [**12-17**] to pain and volume overload. Now off Nitro gtt.
   - Continue Metoprolol 25 mg po BID, Hydralizine 40 q6 and increase
   Enaliprat. 5 q 6
   - lasix prn (see above)
   - Added clonidine if necessary to avoid restarting nitro gtt
   - holding home HCTZ given pancreatitis
   - A line for pressure monitoring
   # Tachycardia: Responded to lopressor yesterday. ECG demonstrates sinus
   tachycardia
   - continue metoprolol at home dose
   # Hyperglycemia: In the setting of steroids.
   - Insulin gtt for better glucose control
   .
   # FEN: IVF, replete lytes prn, ISS,
   - Re-place OG tube; Hold TFs at goal
   - free water boluses 250 cc q6 (free water deficit 2 L)
   .
   # PPx: heparin SQ, h2 blocker, VAP prophylaxis, HOB elevated
   .
   # Code: full code
   .
   # Dispo: ICU
   .
   # Comm:   Family expected to visit today.  Call Brother [**Name (NI) 1495**] with
   Updates.
   - significant other [**Name (NI) 366**] [**Telephone/Fax (1) 2552**]
   - brother [**Name (NI) 1495**] [**Telephone/Fax (1) 2553**] ([**Name2 (NI) 1798**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Arterial Line - [**2164-10-23**] 05:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-10-24 10:10:00 Physician Attending Progress Note
Chief Complaint: Respiartory failure, pancreatitis, anemia,
   tachycardia, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient's BP has been stable overnight.
   Increased airway resistance noted on the ventilator. Patient suctioned
   for what appeared to be old blood; pressures improved slightly with
   that.
   Remained in sinus rhythm through the night.
   Episode of hypoglycemia this AM; glucose given.
   LFT's are trending down.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2164-10-23**] 03:00 PM
 EKG - At [**2164-10-23**] 04:15 PM
 BRONCHOSCOPY - At [**2164-10-23**] 04:36 PM
 EKG - At [**2164-10-23**] 05:00 PM
 INVASIVE VENTILATION - START [**2164-10-23**] 05:05 PM
 CARDIOVERSION/DEFIBRILLATION - At [**2164-10-23**] 05:18 PM
   100 J Cardioversion
 CARDIOVERSION/DEFIBRILLATION - At [**2164-10-23**] 05:20 PM
   100 J Cardioversion
 ARTERIAL LINE - START [**2164-10-23**] 05:59 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Nafcillin - [**2164-10-23**] 08:00 AM
   Imipenem/Cilastatin - [**2164-10-24**] 08:08 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2164-10-23**] 04:00 PM
   Hydromorphone (Dilaudid) - [**2164-10-23**] 04:00 PM
   Midazolam (Versed) - [**2164-10-23**] 04:23 PM
   Metoprolol - [**2164-10-23**] 04:36 PM
   Fentanyl - [**2164-10-24**] 08:07 AM
   Pantoprazole (Protonix) - [**2164-10-24**] 08:08 AM
   Heparin Sodium (Prophylaxis) - [**2164-10-24**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-24**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (99
   HR: 75 (70 - 150) bpm
   BP: 132/55(81) {84/41(59) - 165/92(115)} mmHg
   RR: 22 (17 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 9 (7 - 319)mmHg
   Total In:
                                                                  6,375 mL
                                                                    469 mL
   PO:
   TF:
                                                                  1,098 mL
   IVF:
                                                                  4,267 mL
                                                                    469 mL
   Blood products:
   Total out:
                                                                  3,455 mL
                                                                    290 mL
   Urine:
                                                                  3,455 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,920 mL
                                                                    179 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 1,497 (947 - 1,497) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   SpO2: 97%
   ABG: 7.55/41/124/38/12
   Ve: 8.4 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), I-II/VI systolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , Wheezes : ,
   No(t) Diminished: , No(t) Absent : , Rhonchorous: ), Scattered rhonchi.
   Prolonged expiratory phase
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended,
   No(t) Tender: , Obese, Firm abdomen
   Extremities: Right: 2+ edema, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   7.2 g/dL
   935 K/uL
   18 mg/dL
   0.7 mg/dL
   38 mEq/L
   3.5 mEq/L
   28 mg/dL
   109 mEq/L
   149 mEq/L
   21.8 %
   15.7 K/uL
        [image002.jpg]
                             [**2164-10-22**]  03:26 PM
                             [**2164-10-23**]  04:04 AM
                             [**2164-10-23**]  12:21 PM
                             [**2164-10-23**]  04:09 PM
                             [**2164-10-23**]  06:30 PM
                            [**2164-10-24**]  02:27 AM
                            [**2164-10-24**]  04:04 AM
                            [**2164-10-24**]  04:22 AM
                            [**2164-10-24**]  06:32 AM
                            [**2164-10-24**]  09:21 AM
   WBC
   19.2
   15.7
   Hct
   24.6
   21.8
   Plt
   849
   935
   Cr
   0.7
   0.7
   0.8
   0.7
   TropT
   <0.01
   TCO2
   40
   37
   36
   40
   39
   37
   Glucose
   179
   103
   197
   18
   Other labs: PT / PTT / INR:12.7/27.3/1.1, CK / CKMB /
   Troponin-T:71/4/<0.01, ALT / AST:35/50, Alk Phos / T Bili:206/1.0,
   Amylase / Lipase:37/24, Differential-Neuts:89.9 %, Band:0.0 %,
   Lymph:6.7 %, Mono:2.6 %, Eos:0.6 %, Lactic Acid:1.0 mmol/L, Albumin:2.2
   g/dL, LDH:494 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Imaging: CXR: bilateral pleural effusions. Bilateral upper lobe
   infiltrates with volume loss of RUL and LUL.
   CT scan: no obvious obstruction of upper lobe bronchi. Upper lobe
   infiltrates bilaterally. Large bilateral effusions.
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPERTENSION, BENIGN
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 PANCREATITIS, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ACUTE RESPIRATORY FAILURE
   TACHYCARDIA
   AFIB
   ANEMIA
   Patient has remained in NSR after load with Amiodarone. BP has been
   stable.
   CXR and CT suggest upper lobe infiltrates consistent with inflammation;
   patient has grown MSSA from sputum. Continues on antibiotics. Will do
   bronch today for airway clearance and to send additional specimens for
   microbiology. Patient is very awake on rounds this AM. On PSV 5/5, RSBI
   was in 60's. [**Month (only) 11**] be able to extubate later today.
   Patient is total body volume overloaded with edema and bilateral
   pleural effusions; low albumin. CVP is 9 on PEEP of 5; would maintain
   this intravascular volume and try to maintain mild negative fluid
   balance as we anticipate removing positive pressure ventilation.
   AFib has responded to amiordarone. Continue with anti-hypertensives.
   Hct down to 21. Would transfuse with diuretic.
   Metabolic alkalosis persists. Continue to replete KCl.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Arterial Line - [**2164-10-23**] 05:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2164-10-25 07:17:00 Physician Resident Progress Note
Chief Complaint: pancreatitis
   24 Hour Events:
   - Continues Amiodarone and maintained NSR; Patient needed to maintain
   IV amiodarone because no gastric tube access
   - Bronchoscopy - mild airway edema, but otherwise normal and without
   obstruction
   - After bronchoscopy vent changed from psv 5/5 to [**8-26**] - repeat abg
   showed 7.56/40/117/37 --> [**Month (only) **]d peep to 8 , 7.56/43/121/40 --> [**Month (only) **]d
   peep to 5 7.56/45/125/42
   - BAL
 2+ pmns
   - CT Chest wet read by Rads resident- pulmonary edema, septal
   thickening and GGO, 2 cm RLL nodule (to be f/ud with CT Chest in
   future), R hilar LAD
   - Lasix 20 mg IV x1 in am - -500 cc Fluid balance @ 1500 ; -15cc @ [**2155**]
   --> redosed lasix 20 mg iv x1 -500 @2300 ; -815 cc since MN @ 0400
   - Anemia - 1 U PRBC - held because of fevers ; hct 21 > 23.1 without
   transfusion
   - OG tube placed
   - Surgery - no procedure planned
   - plan to trial 5/0 in am with rounds for ? extubation
   - ? acetazolamide to correct alkaosis
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Nafcillin - [**2164-10-23**] 08:00 AM
   Imipenem/Cilastatin - [**2164-10-25**] 02:00 AM
   Infusions:
   Propofol - 16 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-10-24**] 08:08 AM
   Furosemide (Lasix) - [**2164-10-24**] 01:55 PM
   Fentanyl - [**2164-10-24**] 06:29 PM
   Heparin Sodium (Prophylaxis) - [**2164-10-24**] 11:50 PM
   Hydralazine - [**2164-10-25**] 04:00 AM
   Metoprolol - [**2164-10-25**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-25**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.6
C (99.7
   HR: 78 (70 - 85) bpm
   BP: 123/46(70) {111/44(65) - 158/97(117)} mmHg
   RR: 21 (14 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 8 (8 - 12)mmHg
   Total In:
                                                                  1,928 mL
                                                                    238 mL
   PO:
   TF:
                                                                      5 mL
   IVF:
                                                                  1,253 mL
                                                                    238 mL
   Blood products:
   Total out:
                                                                  2,451 mL
                                                                  1,010 mL
   Urine:
                                                                  2,451 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -523 mL
                                                                   -772 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 531 (356 - 586) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 31
   PIP: 18 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.56/45/125/35/16
   Ve: 8.8 L/min
   PaO2 / FiO2: 313
   Physical Examination
   GEN: intubated, awake, nods appropriately to questions, NAD
   HEENT: icteric sclera with edema, PERRLA, EOMI
   NECK: No JVD, no bruits, no cervical lymphadenopathy, trachea midline,
   L IJ without erythema
   COR: tachy, Regular rhythm, 2/6 SEM at LLSB
   PULM: rhonchi R lung fields, faint end exp. wheezing bilaterally
   ABD: NT, mildly distended, + bowel sounds, no hSM
   EXT: 2+ peripheral edema, upper and lower extremities
   NEURO: sedated, PERRLA
   SKIN: jaundiced
   Labs / Radiology
   895 K/uL
   7.3 g/dL
   88 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.0 mEq/L
   24 mg/dL
   103 mEq/L
   146 mEq/L
   22.6 %
   14.7 K/uL
        [image002.jpg]
                            [**2164-10-24**]  04:04 AM
                            [**2164-10-24**]  04:22 AM
                            [**2164-10-24**]  06:32 AM
                            [**2164-10-24**]  09:21 AM
                            [**2164-10-24**]  11:22 AM
                            [**2164-10-24**]  09:58 PM
                            [**2164-10-24**]  10:14 PM
                            [**2164-10-25**]  01:16 AM
                            [**2164-10-25**]  03:43 AM
                            [**2164-10-25**]  04:24 AM
   WBC
   15.7
   14.7
   Hct
   21.8
   23.1
   22.6
   Plt
   935
   895
   Cr
   0.7
   0.7
   0.7
   TCO2
   40
   39
   37
   35
   37
   40
   42
   Glucose
   18
   120
   88
   Other labs: PT / PTT / INR:12.7/27.3/1.1, CK / CKMB /
   Troponin-T:71/4/<0.01, ALT / AST:35/50, Alk Phos / T Bili:206/1.0,
   Amylase / Lipase:37/24, Differential-Neuts:89.9 %, Band:0.0 %,
   Lymph:6.7 %, Mono:2.6 %, Eos:0.6 %, Lactic Acid:1.0 mmol/L, Albumin:2.2
   g/dL, LDH:494 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Assesment: This is a 61 year-old female with a history of alcoholism
   and s/p cholecystectomy who presented from an OSH with acute
   pancreatitis; now ICU day 9. Re-intubated emergently [**10-23**] in the
   setting of hypotension to sbp 60s a fib with RVR to 200s s/p
   cardioversion.
   .
   Plan:
   # Pancreatitis:  CT essentially unchanged; identification of
   peripancreatic phlegmon. Continues to be jaundiced.  Significant volume
   overload given aggressive resuscitation; UOP is stable.  WBC trending
   down.   GI following.  LFts continue to trend down.
   -Per surgery, no need to cover with antibx for necrotic pancreas ([**Last Name (un) 1540**]
   [**10-16**]
 [**10-22**])
   - f/u surgery and GI recs (Brown)
   # VAP: Sputum GS significant GPCs  [**10-15**]. Growing MSSA (imipenem
   sensitive). Vancomycin d/cd ([**Date range (1) 2691**]). Transition from Imipenem (12/2
 [**10-22**]) to Nafcillin [**10-22**], but Imipenem was restarted given
   decompensating respitory status. Plan to complete 10 day course [**10-26**]
   - Continue Imipenem
   - VAP precautions
   - resent blood, sputum, urine cx
   .
   # Respiratory/Pulmonary edema:  Extubated [**10-21**] but emergently
   re-intubated [**10-23**] during event with svt and hypotenstion. Overall
   volume up, and CXR consistent with pulmonary edema. CT chest with
   interstitial changes and pleural effusions. Now doing well on minimal
   vent. Settings. Bronchoscopy wnl, and samples pending. Diuresed well
   yestreday to lasix prn.
   - Continue minimal vent settings and plan to extubate this morning
   - Continue cautious diuresis with Lasix prn for goal 500 cc
 1  L net
   negative
   - Atrovent and albuterol nebs; Ipratropium MDI
   # SVTachycardia: Patient has prior h/o of Afib per pt while she was
   awake. Reportedly never anticoagulated. Episodes of SVT appear
   precipitated by  diuresis. Now in NSR. S/p cardioversion x2 [**10-23**], but
   pt spontaneously converted herself during code situation yesterday.
   - Continue Amiodarone gtt until able to take po. Then start 400 mg po
   TID x7 days
   - Continue Metoprolol 25 mg po BID; use lopressor 5 iv q6 while no OG
   tube
   # Anemia: Patient was unable to obtain transfusion yesterday because of
   fevers. Will attempt to transfuse 1 u prbc later today.
   # Alkalosis: Likely [**12-17**] aggressive diuresis. Also consistent with
   hypernatremia.
   # Diarrhea: Developed on antibx. Cdiff negative x 2
   - Repeat cdiff x1
   # Horase voice: patient had traumatic intubation and continues to have
   a hoarse voice. ENT reports vocal cords functional and will continue to
   take time to recover.
   - f/u any further ENT reccs
   - f/u with ent in 2 wks
   # EtOH abuse: hospitalized since [**10-12**]. No current signs of withdrawal,
   but patient is significantly sedated.
   - social work consult when MS improves
   # HTN: Likely [**12-17**] to pain and volume overload. Now off Nitro gtt.
   - Continue Metoprolol 25 mg po BID, Hydralizine 40 q6 and increase
   Enaliprat. 5 q 6
   - lasix prn (see above)
   - d/c clonidine
   - holding home HCTZ given pancreatitis
   - A line for pressure monitoring
   # Hyperglycemia:  Continue lantus and ISS
   .
   # FEN: IVF, replete lytes prn, ISS,
   - Re-place OG tube; Hold TFs at goal
   - free water boluses 250 cc q6 (free water deficit today 1.6)
   .
   # PPx: heparin SQ, h2 blocker, VAP prophylaxis, HOB elevated
   .
   # Code: full code
   .
   # Dispo: ICU care for now
   .
   # Comm:   Family expected to visit today.  Call Brother [**Name (NI) 1495**] with
   Updates.
   - significant other [**Name (NI) 366**] [**Telephone/Fax (1) 2552**]
   - brother [**Name (NI) 1495**] [**Telephone/Fax (1) 2553**] ([**Name2 (NI) 1798**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Arterial Line - [**2164-10-23**] 05:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-10-25 09:48:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pancreatitis, afib, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Fluid balance has been negative through the past 24 hours. Hct up to
   23.1.
   RSBI=31 this morning.
   Still febrile.
   Continues to be hypokalemic despite repletion.
   24 Hour Events:
 STOOL CULTURE - At [**2164-10-24**] 11:27 AM
 BRONCHOSCOPY - At [**2164-10-24**] 03:15 PM
 FEVER - 102.1
F - [**2164-10-24**] 06:00 PM
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Nafcillin - [**2164-10-23**] 08:00 AM
   Imipenem/Cilastatin - [**2164-10-25**] 08:15 AM
   Infusions:
   Propofol - 16 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2164-10-24**] 01:55 PM
   Fentanyl - [**2164-10-24**] 06:29 PM
   Hydralazine - [**2164-10-25**] 04:00 AM
   Metoprolol - [**2164-10-25**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2164-10-25**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-25**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.4
C (99.3
   HR: 77 (70 - 85) bpm
   BP: 118/40(64) {111/40(64) - 158/97(117)} mmHg
   RR: 21 (14 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 228 (8 - 228)mmHg
   Total In:
                                                                  1,928 mL
                                                                    379 mL
   PO:
   TF:
                                                                      5 mL
   IVF:
                                                                  1,253 mL
                                                                    379 mL
   Blood products:
   Total out:
                                                                  2,451 mL
                                                                  1,150 mL
   Urine:
                                                                  2,451 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -523 mL
                                                                   -771 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 335 (335 - 586) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 31
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.56/45/125/35/16
   Ve: 10.5 L/min
   PaO2 / FiO2: 313
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI murmur at apex radiating to the axilla
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and laterally, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+ edema, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Difficult to assess with ETT, Movement:
   Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   895 K/uL
   88 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.0 mEq/L
   24 mg/dL
   103 mEq/L
   146 mEq/L
   22.6 %
   14.7 K/uL
        [image002.jpg]
                            [**2164-10-24**]  04:04 AM
                            [**2164-10-24**]  04:22 AM
                            [**2164-10-24**]  06:32 AM
                            [**2164-10-24**]  09:21 AM
                            [**2164-10-24**]  11:22 AM
                            [**2164-10-24**]  09:58 PM
                            [**2164-10-24**]  10:14 PM
                            [**2164-10-25**]  01:16 AM
                            [**2164-10-25**]  03:43 AM
                            [**2164-10-25**]  04:24 AM
   WBC
   15.7
   14.7
   Hct
   21.8
   23.1
   22.6
   Plt
   935
   895
   Cr
   0.7
   0.7
   0.7
   TCO2
   40
   39
   37
   35
   37
   40
   42
   Glucose
   18
   120
   88
   Other labs: PT / PTT / INR:12.7/27.3/1.1, CK / CKMB /
   Troponin-T:71/4/<0.01, ALT / AST:35/50, Alk Phos / T Bili:206/1.0,
   Amylase / Lipase:37/24, Differential-Neuts:89.9 %, Band:0.0 %,
   Lymph:6.7 %, Mono:2.6 %, Eos:0.6 %, Lactic Acid:1.0 mmol/L, Albumin:2.2
   g/dL, LDH:494 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR: improved aeration in the upper lobes. Bilateral
   effusions. Possible LLL infiltlrate
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPERTENSION, BENIGN
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 PANCREATITIS, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ACUTE RESPIRATORY FAILURE
   METABOLIC ACIDOSIS
   HYPERNATREMIA
   Patient doing very well from a respiratory standpoint. RSBI good. Given
   prior hx of laryngeal edema, will make sure she has a cuff leak before
   proceeding with extubation.
   Continue with diuresis. Need to maintain aggressive KCl replacement for
   metabolic alkalosis.
   Hct stable. Not at transfusion threshold.
   Afib has not recurred since conversion with amiodarone.
   Mental status much improved. Patient awake and very alert.
   Free water repletion underway.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Arterial Line - [**2164-10-23**] 05:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2164-10-26 06:36:00 Physician Resident Progress Note
Chief Complaint: pancreatitis
   24 Hour Events:
   - Extubated on rounds yesterday
   - Gave Lasix 20mg times one at 10:00AM
   - vigorous kcl repletion
   - O/n increased RR to 30s and pt uncomfortable appearing; CXR
   consistent with volume overload and given Lasix 20 x1 and 10 x1 as well
   as morphine
 pt improved
   - Dr. [**Last Name (STitle) **] advised starting clear liquids if no abd pain
   -Holding on blood for now
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Nafcillin - [**2164-10-23**] 08:00 AM
   Imipenem/Cilastatin - [**2164-10-26**] 02:07 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-10-25**] 08:10 AM
   Furosemide (Lasix) - [**2164-10-25**] 10:15 AM
   Hydralazine - [**2164-10-26**] 04:00 AM
   Metoprolol - [**2164-10-26**] 04:10 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies sob, cp, abd pain. + cough nonproductive
   Flowsheet Data as of  [**2164-10-26**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (99
   HR: 69 (69 - 100) bpm
   BP: 136/54(82) {97/37(61) - 163/71(95)} mmHg
   RR: 23 (23 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (-4 - 221)mmHg
   Total In:
                                                                  1,362 mL
                                                                    332 mL
   PO:
   TF:
   IVF:
                                                                  1,362 mL
                                                                    332 mL
   Blood products:
   Total out:
                                                                  2,255 mL
                                                                  2,165 mL
   Urine:
                                                                  2,155 mL
                                                                  2,165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -893 mL
                                                                 -1,833 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 335 (335 - 335) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 0%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.53/39/103/36/9
   Ve: 10.5 L/min
   PaO2 / FiO2: 258
   Physical Examination
   GEN: awake, answers questions appropriately, NAD
   HEENT: icteric sclera with edema, PERRLA, EOMI
   NECK: No JVD, no bruits, no cervical lymphadenopathy, trachea midline,
   L IJ without erythema
   COR: tachy, Regular rhythm, 2/6 SEM at LLSB
   PULM: rhonchi R lung fields, faint end exp. wheezing bilaterally
   ABD: NT, mildly distended, + bowel sounds, no hSM
   EXT: 2+ peripheral edema, upper and lower extremities, L>R
   NEURO: sedated, PERRLA
   SKIN: jaundiced
   Labs / Radiology
   1053 K/uL
   7.9 g/dL
   95 mg/dL
   0.8 mg/dL
   36 mEq/L
   4.9 mEq/L
   23 mg/dL
   104 mEq/L
   148 mEq/L
   24.3 %
   13.2 K/uL
        [image002.jpg]
                            [**2164-10-24**]  11:22 AM
                            [**2164-10-24**]  09:58 PM
                            [**2164-10-24**]  10:14 PM
                            [**2164-10-25**]  01:16 AM
                            [**2164-10-25**]  03:43 AM
                            [**2164-10-25**]  04:24 AM
                            [**2164-10-25**]  02:22 PM
                            [**2164-10-25**]  07:55 PM
                            [**2164-10-25**]  11:03 PM
                            [**2164-10-26**]  05:41 AM
   WBC
   14.7
   13.2
   Hct
   23.1
   22.6
   24.3
   Plt
   [**Telephone/Fax (1) 2798**]
   Cr
   0.7
   0.7
   0.8
   TCO2
   35
   37
   40
   42
   38
   34
   35
   34
   Glucose
   120
   88
   95
   Other labs: PT / PTT / INR:12.9/25.8/1.1, CK / CKMB /
   Troponin-T:71/4/<0.01, ALT / AST:35/50, Alk Phos / T Bili:206/1.0,
   Amylase / Lipase:37/24, Differential-Neuts:89.1 %, Band:0.0 %,
   Lymph:6.9 %, Mono:3.4 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L, Albumin:2.2
   g/dL, LDH:494 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Assesment: This is a 61 year-old female with a history of alcoholism
   and s/p cholecystectomy who presented from an OSH with acute
   pancreatitis; now ICU day 11. Re-intubated emergently [**10-23**] in the
   setting of hypotension to sbp 60s a fib with RVR to 200s s/p
   cardioversion, and extubated [**10-25**].
   .
   Plan:
   # Pancreatitis:  CT essentially unchanged; identification of
   peripancreatic phlegmon. Continues to be jaundiced.  Significant volume
   overload given aggressive resuscitation; UOP is stable.  WBC trending
   down.   GI following.  LFts continue to trend down.
   -Per surgery, no need to cover with antibx for necrotic pancreas
   - Plan to advance diet to clear liquids pending s and s consult
   - f/u surgery and GI recs (Brown)
   # VAP: Sputum GS significant GPCs  [**10-15**]. Growing MSSA (imipenem
   sensitive). Vancomycin d/cd ([**Date range (1) 2691**]). Transition from Imipenem (12/2
 [**10-22**]) to Nafcillin [**10-22**], but Imipenem was restarted given
   decompensating respitory status. Plan to complete 14 day course [**10-30**]
   - Continue Imipenem
   - VAP precautions
   - resent blood, sputum, urine cx
   .
   # Respiratory/Pulmonary edema:  Extubated [**10-21**] but emergently
   re-intubated [**10-23**] during event with svt and hypotenstion. Patient was
   extubated [**10-25**]. Overall volume up, and CXR consistent with pulmonary
   edema. CT chest with interstitial changes and pleural effusions. Now
   doing well on minimal vent. Settings. Bronchoscopy [**10-17**] wnl, and
   samples significant only for 2+ polys and staph aureus. Continues to
   diurese well to lasix prn.
   - Continue cautious diuresis with Lasix prn for goal 500 cc - 1  L net
   negative
   - Pt dislikes neb tx so will placed them on hold for now and restart if
   pt decompensates
   - Consider nononvasive ventilation if needed
   # SVTachycardia: Patient has prior h/o of Afib per pt while she was
   awake. Reportedly never anticoagulated. Episodes of SVT appear
   precipitated by  diuresis. Now in NSR. S/p cardioversion x2 [**10-23**], but
   pt spontaneously converted herself during code situation yesterday.
   - Continue Amiodarone gtt until able to take po. Then start 400 mg po
   TID x7 days (recalculate 10 g total loading dose)
   - Continue Metoprolol 25 mg po BID; use lopressor 5 iv q6 while no OG
   tube
   - Plan for CT PA to r/o PE
   # Heart murmur : New heart murmur noted on exam by Attending. [**12-21**]
   diastolic RLSB.
   - repeat tte
   # LLE Swelling: LLE swelling worse than Right side
   - LENIS to eval for dvt
   # Anemia: No indication for transfusion today.
   # Alkalosis: Likely [**12-17**] aggressive diuresis. Also consistent with
   hypernatremia. No plan to use acetazolmide for now.
   - replete Kcl
   # Diarrhea: Developed on antibx. Cdiff negative x3. Continue volume
   repletion for approriate UOP.
   # Horase voice: patient had traumatic intubation and continues to have
   a hoarse voice. ENT reports vocal cords functional and will continue to
   take time to recover.
   - f/u any further ENT reccs
   - f/u with ent in 2 wks
   # EtOH abuse: hospitalized since [**10-12**]. No current signs of withdrawal,
   but patient is significantly sedated.
   - social work consult when MS improves
   # HTN: Likely [**12-17**] to pain and volume overload. Now off Nitro gtt.
   - Continue Metoprolol 25 mg po BID, Hydralizine 40 q6 and increase
   Enaliprat. 5 q 6
   - lasix prn (see above)
   - d/c clonidine
   - holding home HCTZ given pancreatitis
   - A line for pressure monitoring
   # Hyperglycemia:  Continue lantus and ISS
   .
   # FEN: IVF, replete lytes prn, ISS,
   - S and S evaluation
   - Free water deficit 2.4 L -  1 L D5W to replete free water deficit NOW
   .
   # PPx: heparin SQ, h2 blocker, VAP prophylaxis, HOB elevated
   .
   # Code: full code
   .
   # Dispo: ICU care for now
   .
   # Comm:   Family expected to visit today.  Call Brother [**Name (NI) 1495**] with
   Updates.
   - significant other [**Name (NI) 366**] [**Telephone/Fax (1) 2552**]
   - brother [**Name (NI) 1495**] [**Telephone/Fax (1) 2553**] ([**Name2 (NI) 1798**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Arterial Line - [**2164-10-23**] 05:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-10-26 11:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, afib, anemia, pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient developed increased respiratory distress last night without
   significant change in BP or ABG; she was wheezing at the time, not
   responsive to albuterol. Given additional diuretic and some morphine
   with improvement.
   24 Hour Events:
   History obtained from Patient
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Imipenem/Cilastatin - [**2164-10-26**] 08:24 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Hydralazine - [**2164-10-26**] 04:00 AM
   Metoprolol - [**2164-10-26**] 04:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-26**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98.1
   HR: 86 (69 - 96) bpm
   BP: 169/79(111) {97/37(61) - 194/81(120)} mmHg
   RR: 26 (23 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 12 (-4 - 14)mmHg
   Total In:
                                                                  1,362 mL
                                                                    491 mL
   PO:
   TF:
   IVF:
                                                                  1,362 mL
                                                                    491 mL
   Blood products:
   Total out:
                                                                  2,255 mL
                                                                  2,595 mL
   Urine:
                                                                  2,155 mL
                                                                  2,595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -893 mL
                                                                 -2,104 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.53/39/103/36/9
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic,
   Diastolic), II/VI systolic murmur with honking quality at apex.
   II/VI systolic murmur at base with I-II/VI diastolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, Crackles : Few, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+ edema, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   1053 K/uL
   95 mg/dL
   0.8 mg/dL
   36 mEq/L
   4.9 mEq/L
   23 mg/dL
   104 mEq/L
   148 mEq/L
   24.3 %
   13.2 K/uL
        [image002.jpg]
                            [**2164-10-24**]  11:22 AM
                            [**2164-10-24**]  09:58 PM
                            [**2164-10-24**]  10:14 PM
                            [**2164-10-25**]  01:16 AM
                            [**2164-10-25**]  03:43 AM
                            [**2164-10-25**]  04:24 AM
                            [**2164-10-25**]  02:22 PM
                            [**2164-10-25**]  07:55 PM
                            [**2164-10-25**]  11:03 PM
                            [**2164-10-26**]  05:41 AM
   WBC
   14.7
   13.2
   Hct
   23.1
   22.6
   24.3
   Plt
   [**Telephone/Fax (1) 2798**]
   Cr
   0.7
   0.7
   0.8
   TCO2
   35
   37
   40
   42
   38
   34
   35
   34
   Glucose
   120
   88
   95
   Other labs: PT / PTT / INR:12.9/25.8/1.1, CK / CKMB /
   Troponin-T:71/4/<0.01, ALT / AST:35/50, Alk Phos / T Bili:206/1.0,
   Amylase / Lipase:37/24, Differential-Neuts:89.1 %, Band:0.0 %,
   Lymph:6.9 %, Mono:3.4 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L, Albumin:2.2
   g/dL, LDH:494 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPERTENSION, BENIGN
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 PANCREATITIS, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ACUTE RESPIRATORY FAILURE
   ANEMIA
   METABOLIC ACIDOSIS
   Patient with acute (developed over 1-2 hours per patient) episode of
   respirtory distress last night described as associated with wheezing.
   Temporally improved with diuresis. Seems to have new murmur today. Will
   obtain echocardiogram to assess ventricular function and valves. No
   evidence for aspiration. No apparent congestion to account for mucus
   plugging.
   Completing course of antibiotics for pneumonia.
   Abdominal exam benign; pancreatitis resolving.
   Hct stable. Not at transfusion threshold.
   Serum Na elevated. Needs free water repletion.
   Metabolic alkalosis improving with KCl repletion.
   ICU Care
   Nutrition: Clear liqs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Arterial Line - [**2164-10-23**] 05:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2164-10-27 06:58:00 Physician Resident Progress Note
Chief Complaint: pancreatitis
   24 Hour Events:
   - Swallow evaluation
 clear > thin > solids
   - CT A Chest
 no pe, worsening multifocal pna, rll nodule improved
   since last CT but needs f/u
   - TTE
 unchanged
   - LENI
 negative for dvt
   - Antibx for VAP changed from Imi > vanco/zosyn
   - Received lasix 20 mg Iv x2
   - Insulin gtt started for BS > 300
   - Ativan x 1.5 o/n
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Imipenem/Cilastatin - [**2164-10-26**] 04:53 PM
   Vancomycin - [**2164-10-26**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2164-10-27**] 06:00 AM
   Infusions:
   Insulin - Regular - 1.1 units/hour
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   + anxiety + diarrhea denies cp, sob, abd pain
   Flowsheet Data as of  [**2164-10-27**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 76 (57 - 92) bpm
   BP: 149/79(109) {105/52(74) - 194/81(120)} mmHg
   RR: 23 (8 - 26) insp/[**Year (4 digits) **]
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
    CVP: 12 (12 - 12)mmHg
   Total In:
                                                                  2,761 mL
                                                                    260 mL
   PO:
                                                                    800 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,961 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                  4,225 mL
                                                                    265 mL
   Urine:
                                                                  4,225 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,464 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///37/
   Physical Examination
   GEN: awake, answers questions appropriately, NAD
   HEENT: icteric sclera with edema, PERRLA, EOMI
   NECK: No JVD, no bruits, no cervical lymphadenopathy, trachea midline,
   L IJ without erythema
   COR: tachy, Regular rhythm, 2/6 SEM at LLSB
   PULM: rhonchi L lung fields, faint end exp. wheezing bilaterally
   ABD: NT, mildly distended, + bowel sounds, no hSM
   EXT: 2+ peripheral edema, upper and lower extremities, L>R
   NEURO: sedated, PERRLA
   SKIN: jaundiced
   Labs / Radiology
   1057 K/uL
   7.6 g/dL
   215 mg/dL
   0.7 mg/dL
   37 mEq/L
   3.8 mEq/L
   17 mg/dL
   100 mEq/L
   141 mEq/L
   23.5 %
   13.6 K/uL
        [image002.jpg]
                            [**2164-10-25**]  01:16 AM
                            [**2164-10-25**]  03:43 AM
                            [**2164-10-25**]  04:24 AM
                            [**2164-10-25**]  02:22 PM
                            [**2164-10-25**]  07:55 PM
                            [**2164-10-25**]  11:03 PM
                            [**2164-10-26**]  05:41 AM
                            [**2164-10-26**]  05:59 PM
                            [**2164-10-27**]  12:05 AM
                            [**2164-10-27**]  05:30 AM
   WBC
   14.7
   13.2
   13.6
   Hct
   22.6
   24.3
   23.5
   Plt
   [**Telephone/Fax (1) 2798**]
   1057
   Cr
   0.7
   0.8
   0.8
   0.8
   0.7
   TCO2
   40
   42
   38
   34
   35
   34
   Glucose
   88
   95
   231
   215
   Other labs: PT / PTT / INR:12.9/25.8/1.1, CK / CKMB /
   Troponin-T:71/4/<0.01, ALT / AST:41/58, Alk Phos / T Bili:283/0.9,
   Amylase / Lipase:37/24, Differential-Neuts:89.1 %, Band:0.0 %,
   Lymph:6.9 %, Mono:3.4 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L, Albumin:2.5
   g/dL, LDH:480 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Assesment: This is a 61 year-old female with a history of alcoholism
   and s/p cholecystectomy who presented from an OSH with acute
   pancreatitis; now ICU day 12. Re-intubated emergently [**10-23**] in the
   setting of hypotension to sbp 60s a fib with RVR to 200s s/p
   cardioversion, and extubated [**10-25**].
   .
   Plan:
   # Pancreatitis:  CT essentially unchanged; identification of
   peripancreatic phlegmon. Continues to be jaundiced.  Significant volume
   overload given aggressive resuscitation; UOP is stable.  WBC trending
   down.   GI following.  LFts continue to trend down.
   -Per surgery, no need to cover with antibx for necrotic pancreas
   - Plan to advance diet to full liquids today
   - Will d/w GI re: pancreatic enzyme replacement
   - Contininue Insulin gtt (see below)
   - f/u surgery and GI recs (Brown)
   # VAP: Sputum GS significant GPCs  [**10-15**]. Growing MSSA (imipenem
   sensitive) [**10-15**] (sputum) and [**10-17**] (bal). Vancomycin d/cd ([**Date range (1) 2691**]).
   Transition from Imipenem (12/2
 [**10-22**]) to Nafcillin [**10-22**], but Imipenem
   was restarted given decompensating respitory status. CT chest [**10-26**]
   concerning for worsening multifocal pna, so changed antibx coverage
   [**10-26**] from Imipenem to Vanco/Zosyn. Micro data negative since [**10-17**].
   Plan to complete 14 day course [**10-30**]
   - Vanco/Zosyn
   - VAP precautions
   - add Guaifenesin for expectoration
   - resent blood, sputum, urine cx
   .
   # Respiratory/Pulmonary edema:  Extubated [**10-21**] but emergently
   re-intubated [**10-23**] during event with svt and hypotenstion. Patient was
   extubated [**10-25**]. Overall volume up, and CXR consistent with pulmonary
   edema. CT chest with interstitial changes and pleural effusions. Now
   doing well on minimal vent. Settings. Bronchoscopy [**10-17**] wnl, and
   samples significant only for 2+ polys and staph aureus. Continues to
   diurese well to lasix prn.
   - Continue cautious diuresis with Lasix prn for goal 500 cc - 1  L net
   negative
   - Pt dislikes neb tx so will placed them on hold for now and restart if
   pt decompensates
   - Consider nononvasive ventilation if needed
   # SVTachycardia: Patient has prior h/o of Afib per pt while she was
   awake. Reportedly never anticoagulated. Episodes of SVT appear
   precipitated by  diuresis. Now in NSR. S/p cardioversion x2 [**10-23**], but
   pt spontaneously converted herself during code situation yesterday. CTA
   negative for PE
   - Received approximatedly 2.5 g Iv Amiodarone. Plan to continue 400 mg
   po TID x4 days until [**10-31**] to complete 10 g load before starting
   maintenance dose
   - Continue Metoprolol 25 mg po BID
   # HTN:
   - Continue Metoprolol 25 mg po BID, Hydralizine 40 q6 and Enaliprat. 5
   q 6
   - lasix prn (see above)
   - holding home HCTZ given pancreatitis
   - A line for pressure monitoring
   # LLE Swelling: LLE swelling worse than Right side. LENI negative.
   # Alkalosis: Likely [**12-17**] aggressive diuresis. Also consistent with
   hypernatremia (which as improved today). No plan to use acetazolmide
   for now.
   - replete Kcl
   # Diarrhea: Developed on antibx. Cdiff negative x3. Continue volume
   repletion for approriate UOP.
   - Loperamide prn
   .
   # Anxiety: Ativan PRN
   .
   # Horase voice: patient had traumatic intubation and continues to have
   a hoarse voice. ENT reports vocal cords functional and will continue to
   take time to recover.
   - f/u any further ENT reccs
   - f/u with ent in 2 wks
   # EtOH abuse: hospitalized since [**10-12**]. No current signs of withdrawal,
   but patient is significantly sedated.
   - social work consult when MS improves
   # Hyperglycemia:  Continue iss and calculate needs x 24 hrs
   # RLL nodule
 needs f/u as outpt
   .
   # FEN: fulls, replete lytes prn, ISS with insulin gtt
   - S and S evaluation
   .
   # PPx: heparin SQ, ppi,  HOB elevated
   .
   # Code: full code
   .
   # Dispo: ICU care for now, PT consult requested
   .
   # Comm:   Family expected to visit today.  Call Brother [**Name (NI) 1495**] with
   Updates.
   - significant other [**Name (NI) 366**] [**Telephone/Fax (1) 2552**]
   - brother [**Name (NI) 1495**] [**Telephone/Fax (1) 2553**] ([**Name2 (NI) 1798**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Arterial Line - [**2164-10-23**] 05:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed the note of Dr [**Last Name (STitle) 2564**] above,
   and I agree with the findings and plan of care.  The patient
   pancreatitis is resolving and her diet being advanced.  She is on face
   mask and still having some trouble expectorating sputum following her
   multifocal pneumonia and ARDS.  We will continue Vanc and Zosyn for 14
   days, try to not dry her out too quickly (given  her secretions and
   alkalosis), and we will use albuterol nebs and guaifensin to help her
   mobilize her sputum.  Hopefully she will remain extubated and
   cardiovascularly stable as she is on Amio and doing well.
   Time spent in the care of this complex and critically ill patient: 40
   [**First Name8 (NamePattern2) **]
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 549**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2164-10-27**] 21:00 ------

2164-10-28 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2164-10-27**] 05:35 PM
   -Lasix 20mg times two
   -Insulin drip continues
   -[**Name (NI) 2854**] PT yesterday
   - Vanc/Zosyn continues after change over from Imipenem on Friday.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Imipenem/Cilastatin - [**2164-10-26**] 04:53 PM
   Vancomycin - [**2164-10-27**] 08:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2164-10-28**] 06:00 AM
   Infusions:
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-10-27**] 04:35 PM
   Pantoprazole (Protonix) - [**2164-10-27**] 08:00 PM
   Furosemide (Lasix) - [**2164-10-27**] 11:00 PM
   Other medications:
   Changes to medical and family history: No changes to medical and family
   history at this time.
   Review of systems is unchanged from admission except as noted below
   Review of systems: No changes to review of systems at this time.
   Flowsheet Data as of  [**2164-10-28**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.8
   HR: 60 (57 - 82) bpm
   BP: 132/84(79) {96/48(68) - 176/88(112)} mmHg
   RR: 17 (10 - 25) insp/[**Year (4 digits) **]
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,500 mL
                                                                    385 mL
   PO:
                                                                    590 mL
                                                                    280 mL
   TF:
   IVF:
                                                                    910 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  1,530 mL
                                                                  1,110 mL
   Urine:
                                                                  1,530 mL
                                                                  1,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -30 mL
                                                                   -725 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///35/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No M/T/R bu sounds obscured
   and exam limited by especially noisy breathing today.
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   L>R, No(t) Bronchial: BL, Wheezes : BL, Rhonchorous: BL)
   Abdominal: Soft, Non-tender, Bowel sounds present, ND/NT
   Skin:  3+ Pittimng edema in the LE
s BL.
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): P/P/T
   Labs / Radiology
   813 K/uL
   7.4 g/dL
   83 mg/dL
   0.8 mg/dL
   35 mEq/L
   3.6 mEq/L
   15 mg/dL
   98 mEq/L
   136 mEq/L
   23.1 %
   11.4 K/uL
        [image002.jpg]
                            [**2164-10-25**]  04:24 AM
                            [**2164-10-25**]  02:22 PM
                            [**2164-10-25**]  07:55 PM
                            [**2164-10-25**]  11:03 PM
                            [**2164-10-26**]  05:41 AM
                            [**2164-10-26**]  05:59 PM
                            [**2164-10-27**]  12:05 AM
                            [**2164-10-27**]  05:30 AM
                            [**2164-10-27**]  07:00 PM
                            [**2164-10-28**]  04:00 AM
   WBC
   13.2
   13.6
   11.4
   Hct
   24.3
   23.5
   23.1
   Plt
   1[**Telephone/Fax (5) 2855**]
   Cr
   0.8
   0.8
   0.8
   0.7
   0.7
   0.8
   TCO2
   42
   38
   34
   35
   34
   Glucose
   95
   231
   215
   83
   Other labs: PT / PTT / INR:12.9/25.8/1.1, CK / CKMB /
   Troponin-T:71/4/<0.01, ALT / AST:41/58, Alk Phos / T Bili:283/0.9,
   Amylase / Lipase:37/24, Differential-Neuts:89.1 %, Band:0.0 %,
   Lymph:6.9 %, Mono:3.4 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L, Albumin:2.5
   g/dL, LDH:480 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Imaging: CTA:
   Provisional Findings Impression: DMFj FRI [**2164-10-26**] 2:36 PM
   No pulmonary embolism. Slightly interval worsening in multifocal
   consolidations.
   -----------------------------------------------------------------------
   ---------
   Preliminary Report !! PFI !!
   No pulmonary embolism. Slightly interval worsening in multifocal
   consolidations.
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPERTENSION, BENIGN
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 PANCREATITIS, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assesment: This is a 61 year-old female with a history of alcoholism
   and s/p cholecystectomy who presented from an OSH with acute
   pancreatitis; now ICU day 13. Re-intubated emergently [**10-23**] in the
   setting of hypotension to sbp 60s a fib with RVR to 200s s/p
   cardioversion, and extubated [**10-25**].
   .
   Plan:
   # Pancreatitis:  CT essentially unchanged; identification of
   peripancreatic phlegmon. Jaundice is improving.  Continues with
   significant volume overload given earlier aggressive resuscitation; UOP
   is stable.  WBC trending down.   GI following.
   -Per surgery, no need to cover with antibx for necrotic pancreas
   - Plan to advance diet to full liquids today
   - Will d/w GI re: pancreatic enzyme replacement
   - Contininue Insulin gtt (see below)
   - f/u surgery and GI recs (Brown)
   # VAP: Sputum GS significant GPCs  [**10-15**]. Growing MSSA (imipenem
   sensitive) [**10-15**] (sputum) and [**10-17**] (bal). Vancomycin d/cd ([**Date range (1) 2691**]).
   Transition from Imipenem (12/2
 [**10-22**]) to Nafcillin [**10-22**], but Imipenem
   was restarted given decompensating respitory status. CT chest [**10-26**]
   concerning for worsening multifocal pna, so changed antibx coverage
   [**10-26**] from Imipenem to Vanco/Zosyn. Micro data negative since [**10-17**].
   Plan to complete 14 day course [**10-30**]
   - Vanco/Zosyn
   - VAP precautions
   - add Guaifenesin for expectoration
   - resent blood, sputum, urine cx
   .
   # Respiratory/Pulmonary edema:  Extubated [**10-21**] but emergently
   re-intubated [**10-23**] during event with svt and hypotenstion. Patient was
   extubated [**10-25**]. Overall volume up, and CXR consistent with pulmonary
   edema. CT chest with interstitial changes and pleural effusions.
   Bronchoscopy [**10-17**] wnl, and samples significant only for 2+ polys and
   staph aureus. Continues to  diurese well to lasix prn.
   - Continue cautious diuresis with Lasix prn for goal 500 cc - 1  L net
   negative
   - Pt dislikes neb tx so will placed them on hold for now and restart if
   pt decompensates
   - Consider nononvasive ventilation if needed
   # SVTachycardia: Patient has prior h/o of Afib per pt while she was
   awake. Reportedly never anticoagulated. Episodes of SVT appear
   precipitated by  diuresis. Now in NSR. S/p cardioversion x2 [**10-23**], but
   pt spontaneously converted herself during code situation last week. CTA
   negative for PE
   - Plan to continue Amiodarone 400 mg po TID x4 days until [**10-31**] to
   complete 10 g load before starting maintenance dose
   - Continue Metoprolol 25 mg po BID
   # HTN:
   - Continue Metoprolol 25 mg po BID, Hydralizine 40 q6 and Enaliprat. 5
   q 6
   - lasix prn (see above)
   - holding home HCTZ given pancreatitis
   - A line for pressure monitoring
   # LLE Swelling: LLE swelling worse than Right side. LENI negative.
   # Alkalosis: Likely [**12-17**] aggressive diuresis. Also consistent with
   earlier hypernatremia (which as improved today). No plan to use
   acetazolmide for now.
   -Con
t to monitor
   # Diarrhea: Developed on antibx. Cdiff negative x3. Continue volume
   repletion for approriate UOP.
   - Loperamide prn
   .
   # Anxiety: Ativan PRN
   .
   # Horase voice: patient had traumatic intubation and continues to have
   a hoarse voice. ENT reports vocal cords functional and will continue to
   take time to recover.
   - f/u any further ENT reccs
   - f/u with ent in 2 wks
   # EtOH abuse: hospitalized since [**10-12**]. No current signs of withdrawal.
   - social work consult when MS improves
   # Hyperglycemia:  Continue iss and calculate needs x 24 hrs (now on
   drip grater than 24 hours)
   # RLL nodule
 needs f/u as outpt
   .
   # FEN: fulls
Advance to REGULAR today, replete lytes prn, ISS with
   insulin gtt. Appreciate Speech and Swallow.
   .
   # PPx: heparin SQ, ppi,  HOB elevated
   .
   # Code: full code
   .
   # Dispo: ICU care for now, PT consult appreciated
   .
   # Comm:   Family expected to visit today.  Call Brother [**Name (NI) 1495**] with
   Updates.
   - significant other [**Name (NI) 366**] [**Telephone/Fax (1) 2552**]
   - brother [**Name (NI) 1495**] [**Telephone/Fax (1) 2553**] ([**Name2 (NI) 1798**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Arterial Line - [**2164-10-23**] 05:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed the note of Dr [**Last Name (STitle) 2859**] above
   and agree with the findings and plan of care.
   Patient is now 3+ days post 2^nd extubation and appears to be holding
   her own.  She is coughing and largely swallowing sputum.  CXR still
   shows some volume loss in upper lung fields and exam shows scattered
   rhonchi and wheezes.  To aid in mucociliary clearance we will encourage
   her to cough, use an Acapella mucus clearance device, and we
ll hold
   diuresis for a day or two.  Clinically she doesn
t seem intravascularly
   wet, and may be dry.  Her BP is low ish today and we
ll respond by
   curtailing some of her antihypertensives and advancing diet.  She had
   GPR in blood cult today, and hence additional bld cx will be obtained,
   while she remains on Vanco/Zosyn.  If she continues to do well, we hope
   to call her out in next 24 -48 hrs.
   Time spent in the care of this critically ill patient:  40 [**First Name8 (NamePattern2) **]
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 549**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2164-10-28**] 13:23 ------

2164-10-29 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2164-10-28**] 08:39 AM
 BLOOD CULTURED - At [**2164-10-28**] 02:27 PM
 BLOOD CULTURED - At [**2164-10-28**] 03:27 PM
 STOOL CULTURE - At [**2164-10-28**] 03:27 PM
   1) Advanced to full diet
   2) Re: Pancreatic Enzymes--sent out for stool fat [**Doctor Last Name 2886**]
   3) Stopped Hydralazine with pressures subsequently in 100's.
   4) A line blood culture grew preliminary gram positive rods, not yet
   speciated. Sent new cultures.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Imipenem/Cilastatin - [**2164-10-26**] 04:53 PM
   Vancomycin - [**2164-10-28**] 07:58 PM
   Piperacillin/Tazobactam (Zosyn) - [**2164-10-29**] 05:04 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-10-28**] 08:34 AM
   Heparin Sodium (Prophylaxis) - [**2164-10-28**] 11:24 PM
   Other medications:
   Changes to medical and family history: There is no change to the
   medical and family history at this time.
   Review of systems is unchanged from admission except as noted below
   Review of systems: There is no change to the review of systems at this
   time.
   Flowsheet Data as of  [**2164-10-29**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 71 (62 - 76) bpm
   BP: 102/43(58) {88/39(51) - 116/55(80)} mmHg
   RR: 24 (11 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,335 mL
                                                                    272 mL
   PO:
                                                                    935 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,400 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  2,335 mL
                                                                    720 mL
   Urine:
                                                                  2,335 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -448 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No M/T/R bu sounds obscured
   and exam limited by especially noisy breathing today.
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   L>R, No(t) Bronchial: BL, Wheezes : BL, Rhonchorous: BL)
   Abdominal: Soft, Non-tender, Bowel sounds present, ND/NT
   Skin:  3+ Pittimng edema in the LE's BL.
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): P/P/T
   Labs / Radiology
   725 K/uL
   6.9 g/dL
   111 mg/dL
   0.9 mg/dL
   32 mEq/L
   4.1 mEq/L
   16 mg/dL
   102 mEq/L
   139 mEq/L
   22.3 %
   12.5 K/uL
        [image002.jpg]
                            [**2164-10-25**]  02:22 PM
                            [**2164-10-25**]  07:55 PM
                            [**2164-10-25**]  11:03 PM
                            [**2164-10-26**]  05:41 AM
                            [**2164-10-26**]  05:59 PM
                            [**2164-10-27**]  12:05 AM
                            [**2164-10-27**]  05:30 AM
                            [**2164-10-27**]  07:00 PM
                            [**2164-10-28**]  04:00 AM
                            [**2164-10-29**]  03:59 AM
   WBC
   13.2
   13.6
   11.4
   12.5
   Hct
   24.3
   23.5
   23.1
   22.3
   Plt
   1[**Telephone/Fax (5) 2855**]
   725
   Cr
   0.8
   0.8
   0.8
   0.7
   0.7
   0.8
   0.9
   TCO2
   38
   34
   35
   34
   Glucose
   95
   [**Telephone/Fax (2) 2887**]1
   Other labs: PT / PTT / INR:13.5/27.8/1.2, CK / CKMB /
   Troponin-T:71/4/<0.01, ALT / AST:41/58, Alk Phos / T Bili:283/0.9,
   Amylase / Lipase:37/24, Differential-Neuts:89.1 %, Band:0.0 %,
   Lymph:6.9 %, Mono:3.4 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L, Albumin:2.5
   g/dL, LDH:480 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPERTENSION, BENIGN
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 PANCREATITIS, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assesment: This is a 61 year-old female with a history of alcoholism
   and s/p cholecystectomy who presented from an OSH with acute
   pancreatitis; now ICU day 13. Re-intubated emergently [**10-23**] in the
   setting of hypotension to sbp 60s a fib with RVR to 200s s/p
   cardioversion, and extubated [**10-25**]. Now much brighter and ?approaching
   end of ICU stay.
   # Pancreatitis:   Jaundice is improving. Tolerating new diet well.
   Overall much improved.  Continues with significant extra-vascular
   volume overload in LE's given earlier aggressive resuscitation; UOP is
   stable.  WBC trending down.   GI following.
   -Per surgery, no need to cover with antibx for necrotic pancrease.
   - Continue full diet.
   -F/u stool fat [**Doctor Last Name 2886**] to determine if there is a need for pancreatic
   enzymes
   - Originally planned to dose Insulin today, but have just completed
   first day of full regulars, so will calculate today's requirements
   based on insulin drip on fulls.
   - f/u surgery and GI recs (Brown)
   # VAP: Sputum GS significant GPCs  [**10-15**]. Growing MSSA (imipenem
   sensitive) [**10-15**] (sputum) and [**10-17**] (bal). Vancomycin d/cd ([**Date range (1) 2691**]).
   Transition from Imipenem (12/2
 [**10-22**]) to Nafcillin [**10-22**], but Imipenem
   was restarted given decompensating respitory status. CT chest [**10-26**]
   concerning for worsening multifocal pna, so changed antibx coverage
   [**10-26**] from Imipenem to Vanco/Zosyn. Micro data negative since [**10-17**].
   Plan to complete 14 day course [**10-30**].  She is coughing and largely
   swallowing sputum.  CXR still shows some volume loss in upper lung
   fields and exam shows scattered rhonchi and wheezes.
   -encourage her to cough,  Acapella mucus clearance device.
   - Vanco/Zosyn
   - VAP precautions
   - con't Guaifenesin for expectoration
   - resent blood, sputum, urine cx
   .
   # Respiratory/Pulmonary edema:  Extubated [**10-21**] but emergently
   re-intubated [**10-23**] during event with svt and hypotenstion. Patient was
   extubated [**10-25**]. Overall volume up, and CXR consistent with pulmonary
   edema. CT chest with interstitial changes and pleural effusions.
   Bronchoscopy [**10-17**] wnl, and samples significant only for 2+ polys and
   staph aureus. Continues to  diurese well to lasix prn.
   - Continue cautious diuresis with Lasix prn for goal 500 cc - 1  L net
   negative
   - Pt dislikes neb tx so will placed them on hold for now and restart if
   pt decompensates
   - Consider nononvasive ventilation if needed
   # SVTachycardia: Patient has prior h/o of Afib per pt while she was
   awake. Reportedly never anticoagulated. Episodes of SVT appear
   precipitated by  diuresis. Now in NSR. S/p cardioversion x2 [**10-23**], but
   pt spontaneously converted herself during code situation last week. CTA
   negative for PE
   - Plan to continue Amiodarone 400 mg po TID x4 days until [**10-31**] to
   complete 10 g load before starting maintenance dose
   - Continue Metoprolol 25 mg po BID
   # HTN: Pt was hypotensive over weekend; responded well to stopping
   hydralazine yesterday. A line non-functioning, but no longer needed.
   - Continue Metoprolol 25 mg po BID, Hydralizine 40 q6 and Enaliprat. 5
   q 6
   - holding home HCTZ given pancreatitis
   # LLE Swelling: Continues with marked pitting edema. LENI negative.
   Holding diuresis for now.
   # Alkalosis: Likely [**12-17**] aggressive diuresis. Also consistent with
   earlier hypernatremia (which as improved today). No plan to use
   acetazolmide for now.
   -Con't to monitor
   # Diarrhea: Developed on antibx. Cdiff negative x3. Continue volume
   repletion for approriate UOP.
   - Loperamide prn
   # Anxiety: Ativan PRN
   # Horase voice: patient had traumatic intubation and continues to have
   a hoarse voice. ENT reports vocal cords functional and will continue to
   take time to recover.
   - f/u any further ENT reccs
   - f/u with ent in 2 wks
   # EtOH abuse: hospitalized since [**10-12**]. No current signs of withdrawal.
   - social work consult when MS improves (appropriate to request today)
   # Hyperglycemia:  Continue iss and calculate needs x 24 hrs (now on
   drip grater than 24 hours), just started new diet yesterday.
   # RLL nodule
 needs f/u as outpt
   .
   # FEN: fulls
Con't  REGULAR food today, replete lytes prn, ISS with
   insulin gtt. Appreciate Speech and Swallow.
   .
   # PPx: heparin SQ, ppi,  HOB elevated
   .
   # Code: full code
   .
   # Dispo: ICU care for now, PT consult appreciated
   .
   # Comm:   Family expected to visit today.  Call Brother [**Name (NI) 1495**] with
   Updates.
   - significant other [**Name (NI) 366**] [**Telephone/Fax (1) 2552**]
   - brother [**Name (NI) 1495**] [**Telephone/Fax (1) 2553**] ([**Name2 (NI) 1798**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-10-29 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2164-10-28**] 08:39 AM
 BLOOD CULTURED - At [**2164-10-28**] 02:27 PM
 BLOOD CULTURED - At [**2164-10-28**] 03:27 PM
 STOOL CULTURE - At [**2164-10-28**] 03:27 PM
   Additional 24 hour events noted by house staff but not registered on
   Metavision are listed below:
   1) The patient was extubated without complication.
   2) NGT tube placed given severe observed aspiration; CXR confirmed
   adequate placement.
   3) The patient was started on Flagyl in case of aspiration PNA, with
   concern for poor dentition and aspiration noted.
   4) The patient's home antihypertensives were re-started, with evening
   blood pressures in the 130's systolic.
   5) MR spine returned without evidence of paraspinal abscess or
   osteomyelitis on preliminary read.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Imipenem/Cilastatin - [**2164-10-26**] 04:53 PM
   Vancomycin - [**2164-10-28**] 07:58 PM
   Piperacillin/Tazobactam (Zosyn) - [**2164-10-29**] 05:04 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-10-28**] 08:34 AM
   Heparin Sodium (Prophylaxis) - [**2164-10-28**] 11:24 PM
   Other medications:
   Changes to medical and family history: There are no changes to the
   medical and family history.
   Review of systems is unchanged from admission except as noted below
   Review of systems: There are no changes to the review of systems at
   this time.
   Flowsheet Data as of  [**2164-10-29**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 69 (62 - 76) bpm
   BP: 106/49(63) {88/39(51) - 116/55(80)} mmHg
   RR: 23 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,335 mL
                                                                    275 mL
   PO:
                                                                    935 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,400 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  2,335 mL
                                                                    720 mL
   Urine:
                                                                  2,335 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -445 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NC/AT. MMM
   Lymphatic: No C/S LAD
   CV: Cardiovascular: rrr 2/6 sem, loudest at llsb, no r/g
   Abd: S/NT/ND. + BS
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   725 K/uL
   6.9 g/dL
   111 mg/dL
   0.9 mg/dL
   32 mEq/L
   4.1 mEq/L
   16 mg/dL
   102 mEq/L
   139 mEq/L
   22.3 %
   12.5 K/uL
        [image002.jpg]
                            [**2164-10-25**]  02:22 PM
                            [**2164-10-25**]  07:55 PM
                            [**2164-10-25**]  11:03 PM
                            [**2164-10-26**]  05:41 AM
                            [**2164-10-26**]  05:59 PM
                            [**2164-10-27**]  12:05 AM
                            [**2164-10-27**]  05:30 AM
                            [**2164-10-27**]  07:00 PM
                            [**2164-10-28**]  04:00 AM
                            [**2164-10-29**]  03:59 AM
   WBC
   13.2
   13.6
   11.4
   12.5
   Hct
   24.3
   23.5
   23.1
   22.3
   Plt
   1[**Telephone/Fax (5) 2855**]
   725
   Cr
   0.8
   0.8
   0.8
   0.7
   0.7
   0.8
   0.9
   TCO2
   38
   34
   35
   34
   Glucose
   95
   [**Telephone/Fax (2) 2887**]1
   Other labs: PT / PTT / INR:13.5/27.8/1.2, CK / CKMB /
   Troponin-T:71/4/<0.01, ALT / AST:41/58, Alk Phos / T Bili:283/0.9,
   Amylase / Lipase:37/24, Differential-Neuts:89.1 %, Band:0.0 %,
   Lymph:6.9 %, Mono:3.4 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L, Albumin:2.5
   g/dL, LDH:480 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPERTENSION, BENIGN
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 PANCREATITIS, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assessment: This is an 83 year-old female with a history of back pain
   and fever in the setting on known hypertension, now s/p extubation
   [**2164-9-28**].
   Plan:
   # Fever/leukocytosis/Bacteremia:   [**11-18**] Blood Cultures
   demonstrating (Final [**2164-10-26**] from ED GRAM POSITIVE COCCUS(COCCI)  in
   pairs and chains.  No evidence of epidural abcess on preliminary reads
   of MRI total spine.  Murmur on exam concerning for endocarditis, but no
   peripheral manifestations of endocarditis. Of note, the patient's fever
   has diminished and  leukocytosis has resolved. Given LP WNL, d/cd
   Vancomycin, Acylovir and Ampicillin on Friday. Urine growing out Gram
   negative rods, but under 1000 and UA clear. Therefore, low suspicion
   for true gram negative for UTI.
   - Continue   CeftriaXONE 2 g IV Q24H  Order date: [**10-26**]  CTX and
   MetRONIDAZOLE (FLagyl) 500 mg IV Q8H
   - f/u ID reccs
   - QD surveillance blood cultures per ID
   -con't f/u cultures
   -QD CXR's
   # Altered mental status/Psych: Most likely secondary to infection as
   outlined above.   Improving, but aspiration is likely in part secondary
   to inability to attend to basic operations of swollowing. Home psych
   medications have been restarted.
   -con't to monitor
   -con't psych meds, Thioridazine HCl 10 mg PO BID
   #Observed Aspiration: aspiration is likely in part secondary to
   inability to attend to basic operations of swollowing.
   -Con't NG tubes with PO medications through NG tube
   -will eventually need speech and swallow as mental status improves.
   # Hypertension: Pt was previously hypertensive, now getting medications
   through NG tube and showing improvement.
   - Captopril 25 mg PO TID (re-started [**10-28**])
   - Metoprolol Tartrate 50 mg PO BID
   # Back pain: Unable to be assessed at this time, but MRI preliminary
   negative for abscess.
   - f/u final MR read
   # Fungal infection: chronic candidal infection being treated as
   outpatient.
   - continue topical antifungals
   - anti-fungal cultures to assess for dissemination
   - consider adding fluconazole if persistent fever
   # Diabetes: On NPH and glipizide at home, has been getting half home
   dose [**Hospital1 **] as pt. has been NPO. Given that we are starting tube feeds
   this AM, should restart 100% NPH, con't ISS.
   - ISS
   - Increase NPH from [**11-16**] to 100%
   # Hypothyroid: continue home dose  Levothyroxine
   # Skin rash: Chronic venous statis with ?contact dermatitis.
   - Wound care consult pending
   #Hyperlipidemia: Continue home Atorvastatin 40 mg PO DAILY
   #Proph: Cont Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY,
   Heparin SQ.
   #FEN: Tube Feeds to start today. QD lytes with PRN repletion.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-10-29 12:27:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Blood pressure has stabilized. Continues to do well off the
   ventilatory. O2 sats acceptable on nasal supplemental oxygen.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2164-10-28**] 08:39 AM
 BLOOD CULTURED - At [**2164-10-28**] 02:27 PM
 BLOOD CULTURED - At [**2164-10-28**] 03:27 PM
 STOOL CULTURE - At [**2164-10-28**] 03:27 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Imipenem/Cilastatin - [**2164-10-26**] 04:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2164-10-29**] 05:04 AM
   Vancomycin - [**2164-10-29**] 08:12 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-10-29**] 08:12 AM
   Heparin Sodium (Prophylaxis) - [**2164-10-29**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-29**] 12:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 74 (62 - 76) bpm
   BP: 109/42(58) {88/39(51) - 116/55(77)} mmHg
   RR: 22 (11 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,335 mL
                                                                    591 mL
   PO:
                                                                    935 mL
                                                                    160 mL
   TF:
   IVF:
                                                                  1,400 mL
                                                                    431 mL
   Blood products:
   Total out:
                                                                  2,335 mL
                                                                  1,425 mL
   Urine:
                                                                  2,335 mL
                                                                  1,425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -834 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Mild
   respiratory distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , Wheezes
   : Inspiratory and expiratory, No(t) Diminished: , No(t) Absent : ,
   Rhonchorous: Diffuse)
   Extremities: Right: 2+ edema, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   6.9 g/dL
   725 K/uL
   111 mg/dL
   0.9 mg/dL
   32 mEq/L
   4.1 mEq/L
   16 mg/dL
   102 mEq/L
   139 mEq/L
   22.3 %
   12.5 K/uL
        [image002.jpg]
                            [**2164-10-25**]  02:22 PM
                            [**2164-10-25**]  07:55 PM
                            [**2164-10-25**]  11:03 PM
                            [**2164-10-26**]  05:41 AM
                            [**2164-10-26**]  05:59 PM
                            [**2164-10-27**]  12:05 AM
                            [**2164-10-27**]  05:30 AM
                            [**2164-10-27**]  07:00 PM
                            [**2164-10-28**]  04:00 AM
                            [**2164-10-29**]  03:59 AM
   WBC
   13.2
   13.6
   11.4
   12.5
   Hct
   24.3
   23.5
   23.1
   22.3
   Plt
   1[**Telephone/Fax (5) 2855**]
   725
   Cr
   0.8
   0.8
   0.8
   0.7
   0.7
   0.8
   0.9
   TCO2
   38
   34
   35
   34
   Glucose
   95
   [**Telephone/Fax (2) 2887**]1
   Other labs: PT / PTT / INR:13.5/27.8/1.2, CK / CKMB /
   Troponin-T:71/4/<0.01, ALT / AST:41/58, Alk Phos / T Bili:283/0.9,
   Amylase / Lipase:37/24, Differential-Neuts:89.1 %, Band:0.0 %,
   Lymph:6.9 %, Mono:3.4 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L, Albumin:2.5
   g/dL, LDH:480 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPERTENSION, BENIGN
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 PANCREATITIS, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ANEMIA
   ACUTE RESPIRATORY FAILURE
   Patient doing better; mental status continues to improve. Mild
   respiratory distress with congested cough; good oxygen saturation.
   Completing course of antibitics.  Maintain fluids slightly negative
   today.
   Pancreatitis resolving. No significant abdominal pain. Diet progressed.
   Hct stable. No evidence of active bleeding. Not at transfusion
   threshold.
   ICU Care
   Nutrition: oral
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes

2164-10-30 06:34:00 Physician Resident Progress Note
Chief Complaint: pancreatitis
   24 Hour Events:
   continued on inhalers, a line cultures grew dipthroids-- likely
   contaminate, changed ativan to PO.  For 24 hour period gluc 124-304 (14
   U insulin)
   Reinitated home lisinopril and toprolol this AM.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2164-10-29**] 07:36 PM
   Piperacillin/Tazobactam (Zosyn) - [**2164-10-30**] 05:16 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-10-29**] 08:12 AM
   Heparin Sodium (Prophylaxis) - [**2164-10-29**] 04:00 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-30**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 66 (62 - 79) bpm
   BP: 120/63(77) {106/42(58) - 146/63(84)} mmHg
   RR: 20 (15 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,645 mL
                                                                    856 mL
   PO:
                                                                    670 mL
                                                                    690 mL
   TF:
   IVF:
                                                                    975 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  3,565 mL
                                                                  1,160 mL
   Urine:
                                                                  3,565 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,920 mL
                                                                   -305 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No M/T/R bu sounds obscured
   and exam limited by especially noisy breathing today.
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   L>R, No(t) Bronchial: BL, Wheezes : BL, Rhonchorous: BL)
   Abdominal: Soft, Non-tender, Bowel sounds present, ND/NT
   Skin:  3+ Pittimng edema in the LE's BL.
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): P/P/T
   Labs / Radiology
   740 K/uL
   6.9 g/dL
   122 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.4 mEq/L
   11 mg/dL
   102 mEq/L
   141 mEq/L
   22.0 %
   11.5 K/uL
        [image002.jpg]
                            [**2164-10-25**]  07:55 PM
                            [**2164-10-25**]  11:03 PM
                            [**2164-10-26**]  05:41 AM
                            [**2164-10-26**]  05:59 PM
                            [**2164-10-27**]  12:05 AM
                            [**2164-10-27**]  05:30 AM
                            [**2164-10-27**]  07:00 PM
                            [**2164-10-28**]  04:00 AM
                            [**2164-10-29**]  03:59 AM
                            [**2164-10-30**]  04:35 AM
   WBC
   13.2
   13.6
   11.4
   12.5
   11.5
   Hct
   24.3
   23.5
   23.1
   22.3
   22.0
   Plt
   1[**Telephone/Fax (5) 2855**]
   725
   740
   Cr
   0.8
   0.8
   0.8
   0.7
   0.7
   0.8
   0.9
   0.9
   TCO2
   34
   35
   34
   Glucose
   95
   [**Telephone/Fax (2) 2887**]1
   122
   Other labs: PT / PTT / INR:13.5/27.8/1.2, CK / CKMB /
   Troponin-T:71/4/<0.01, ALT / AST:28/32, Alk Phos / T Bili:258/0.9,
   Amylase / Lipase:37/24, Differential-Neuts:89.1 %, Band:0.0 %,
   Lymph:6.9 %, Mono:3.4 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L, Albumin:2.3
   g/dL, LDH:316 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Assesment: This is a 61 year-old female with a history of alcoholism
   and s/p cholecystectomy who presented from an OSH with acute
   pancreatitis; now ICU day 13. Re-intubated emergently [**10-23**] in the
   setting of hypotension to sbp 60s a fib with RVR to 200s s/p
   cardioversion, and extubated [**10-25**]. Now much brighter and ?approaching
   end of ICU stay.
   # Pancreatitis:   Jaundice is improving. Tolerating new diet well.
   Overall much improved.  Continues with significant extra-vascular
   volume overload in LE's given earlier aggressive resuscitation; UOP is
   stable.  WBC trending down.   GI following.
   -Per surgery, no need to cover with antibx for necrotic pancrease.
   - Continue full diet.
   -F/u stool fat [**Doctor Last Name 2886**] to determine if there is a need for pancreatic
   enzymes
   - Originally planned to dose Insulin today, but have just completed
   first day of full regulars, so will calculate today's requirements
   based on insulin drip on fulls.
   - f/u surgery and GI recs (Brown)
   # VAP: Sputum GS significant GPCs  [**10-15**]. Growing MSSA (imipenem
   sensitive) [**10-15**] (sputum) and [**10-17**] (bal). Vancomycin d/cd ([**Date range (1) 2691**]).
   Transition from Imipenem (12/2
 [**10-22**]) to Nafcillin [**10-22**], but Imipenem
   was restarted given decompensating respitory status. CT chest [**10-26**]
   concerning for worsening multifocal pna, so changed antibx coverage
   [**10-26**] from Imipenem to Vanco/Zosyn. Micro data negative since [**10-17**].
   Plan to complete 14 day course [**10-30**].  She is coughing and largely
   swallowing sputum.  CXR still shows some volume loss in upper lung
   fields and exam shows scattered rhonchi and wheezes.
   -encourage her to cough,  Acapella mucus clearance device.
   - Vanco/Zosyn
   - VAP precautions
   - con't Guaifenesin for expectoration
   - resent blood, sputum, urine cx
   .
   # Respiratory/Pulmonary edema:  Extubated [**10-21**] but emergently
   re-intubated [**10-23**] during event with svt and hypotenstion. Patient was
   extubated [**10-25**]. Overall volume up, and CXR consistent with pulmonary
   edema. CT chest with interstitial changes and pleural effusions.
   Bronchoscopy [**10-17**] wnl, and samples significant only for 2+ polys and
   staph aureus. Continues to  diurese well to lasix prn.
   - Continue cautious diuresis with Lasix prn for goal 500 cc - 1  L net
   negative
   - Pt dislikes neb tx so will placed them on hold for now and restart if
   pt decompensates
   - Consider nononvasive ventilation if needed
   # SVTachycardia: Patient has prior h/o of Afib per pt while she was
   awake. Reportedly never anticoagulated. Episodes of SVT appear
   precipitated by  diuresis. Now in NSR. S/p cardioversion x2 [**10-23**], but
   pt spontaneously converted herself during code situation last week. CTA
   negative for PE
   - Plan to continue Amiodarone 400 mg po TID x4 days until [**10-31**] to
   complete 10 g load before starting maintenance dose
   - Continue Metoprolol 25 mg po BID
   # HTN: Pt was hypotensive over weekend; responded well to stopping
   hydralazine yesterday. A line non-functioning, but no longer needed.
   - Continue Metoprolol 25 mg po BID, Hydralizine 40 q6 and Enaliprat. 5
   q 6
   - holding home HCTZ given pancreatitis
   # LLE Swelling: Continues with marked pitting edema. LENI negative.
   Holding diuresis for now.
   # Alkalosis: Likely [**12-17**] aggressive diuresis. Also consistent with
   earlier hypernatremia (which as improved today). No plan to use
   acetazolmide for now.
   -Con't to monitor
   # Diarrhea: Developed on antibx. Cdiff negative x3. Continue volume
   repletion for approriate UOP.
   - Loperamide prn
   # Anxiety: Ativan PRN
   # Horase voice: patient had traumatic intubation and continues to have
   a hoarse voice. ENT reports vocal cords functional and will continue to
   take time to recover.
   - f/u any further ENT reccs
   - f/u with ent in 2 wks
   # EtOH abuse: hospitalized since [**10-12**]. No current signs of withdrawal.
   - social work consult when MS improves (appropriate to request today)
   # Hyperglycemia:  Continue iss and calculate needs x 24 hrs (now on
   drip grater than 24 hours), just started new diet yesterday.
   # RLL nodule
 needs f/u as outpt
   .
   # FEN: fulls
Con't  REGULAR food today, replete lytes prn, ISS with
   insulin gtt. Appreciate Speech and Swallow.
   .
   # PPx: heparin SQ, ppi,  HOB elevated
   .
   # Code: full code
   .
   # Dispo: ICU care for now, PT consult appreciated
   .
   # Comm:   Family expected to visit today.  Call Brother [**Name (NI) 1495**] with
   Updates.
   - significant other [**Name (NI) 366**] [**Telephone/Fax (1) 2552**]
   - brother [**Name (NI) 1495**] [**Telephone/Fax (1) 2553**] ([**Name2 (NI) 1798**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-10-30 12:14:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pneumonia, afib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Afebrile. Fluid balance negative 2L yesterday. O2 sats excellent on
   supplemental oxygen at 4L/min via nasal cannula.
   24 Hour Events:
 BLOOD CULTURED - At [**2164-10-30**] 04:44 AM
 NASAL SWAB - At [**2164-10-30**] 04:48 AM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2164-10-29**] 07:36 PM
   Piperacillin/Tazobactam (Zosyn) - [**2164-10-30**] 05:16 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-10-29**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-10-30**] 12:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 70 (62 - 79) bpm
   BP: 136/66(74) {114/44(60) - 146/66(84)} mmHg
   RR: 25 (15 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,645 mL
                                                                    910 mL
   PO:
                                                                    670 mL
                                                                    690 mL
   TF:
   IVF:
                                                                    975 mL
                                                                    220 mL
   Blood products:
   Total out:
                                                                  3,565 mL
                                                                  2,675 mL
   Urine:
                                                                  3,565 mL
                                                                  2,675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,920 mL
                                                                 -1,765 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II-III/VI systolic murmur at apex (honking) and at base.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : Diffusely insipiration and expiration, No(t) Diminished: ,
   No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+ edema, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   6.9 g/dL
   740 K/uL
   122 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.4 mEq/L
   11 mg/dL
   102 mEq/L
   141 mEq/L
   22.0 %
   11.5 K/uL
        [image002.jpg]
                            [**2164-10-25**]  07:55 PM
                            [**2164-10-25**]  11:03 PM
                            [**2164-10-26**]  05:41 AM
                            [**2164-10-26**]  05:59 PM
                            [**2164-10-27**]  12:05 AM
                            [**2164-10-27**]  05:30 AM
                            [**2164-10-27**]  07:00 PM
                            [**2164-10-28**]  04:00 AM
                            [**2164-10-29**]  03:59 AM
                            [**2164-10-30**]  04:35 AM
   WBC
   13.2
   13.6
   11.4
   12.5
   11.5
   Hct
   24.3
   23.5
   23.1
   22.3
   22.0
   Plt
   1[**Telephone/Fax (5) 2855**]
   725
   740
   Cr
   0.8
   0.8
   0.8
   0.7
   0.7
   0.8
   0.9
   0.9
   TCO2
   34
   35
   34
   Glucose
   95
   [**Telephone/Fax (2) 2887**]1
   122
   Other labs: PT / PTT / INR:13.5/27.8/1.2, CK / CKMB /
   Troponin-T:71/4/<0.01, ALT / AST:28/32, Alk Phos / T Bili:258/0.9,
   Amylase / Lipase:37/24, Differential-Neuts:89.1 %, Band:0.0 %,
   Lymph:6.9 %, Mono:3.4 %, Eos:0.4 %, Lactic Acid:1.0 mmol/L, Albumin:2.3
   g/dL, LDH:316 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR: persistent upper lobe opacities with volume loss; right
   upper lobe slightly better aearated.
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPERTENSION, BENIGN
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 PANCREATITIS, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   AFIB
   Patient continues to improve. Persistent wheezes. Good O2 sat off
   supplemental oxygen.
   Has completed course of antibiotics for VAP. Will stop today.
   Mental status normalized.
   No abdominal pain; pancreatitis improving.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-10-17**] 07:29 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes